2139-06-28 10:19:00 Physician Attending Progress Note
Chief Complaint: urosepsis, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, s/p trach presents with hypotension, arf, sepsis
   24 Hour Events:
 INVASIVE VENTILATION - START [**2139-6-27**] 05:35 PM
 ARTERIAL LINE - START [**2139-6-27**] 05:51 PM
 MULTI LUMEN - START [**2139-6-27**] 05:52 PM
 PRESEP CATHETER - START [**2139-6-27**] 05:52 PM
   weaning pressors --> levophed 0.03
   rij placed, aline placed in ed
   NS resus--> nongap met acidosis
   slight increase in u/o
   cvp 7-10
   [**Last Name (un) 45**] stim
   History obtained from [**Hospital 85**] Medical records, ho
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Vancomycin - [**2139-6-28**] 09:07 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-6-28**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100
   HR: 101 (88 - 110) bpm
   BP: 127/50(71) {100/45(59) - 149/68(90)} mmHg
   RR: 18 (17 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 6 (-10 - 17)mmHg
   Total In:
                                                                  5,603 mL
                                                                  2,433 mL
   PO:
   TF:
   IVF:
                                                                  5,603 mL
                                                                  2,403 mL
   Blood products:
   Total out:
                                                                     28 mL
                                                                    144 mL
   Urine:
                                                                     28 mL
                                                                    144 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,575 mL
                                                                  2,289 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 525 (525 - 525) mL
   PS : 12 cmH2O
   RR (Set): 22
   RR (Spontaneous): 7
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.27/39/117/19/-8
   Ve: 11.6 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   253 K/uL
   100 mg/dL
   2.5 mg/dL (3.4)
   19 mEq/L (18)
   2.8 mEq/L
   37 mg/dL
   117 mEq/L
   149 mEq/L
   22.1 %
   16.7 K/uL
        [image002.jpg]
                             [**2139-6-27**]  07:09 PM
                             [**2139-6-27**]  07:57 PM
                             [**2139-6-28**]  12:22 AM
                             [**2139-6-28**]  03:40 AM
                             [**2139-6-28**]  06:30 AM
   WBC
   17.3
   16.7
   Hct
   27.5
   22.1
   Plt
   321
   253
   Cr
   3.1
   2.5
   TCO2
   22
   22
   19
   Glucose
   200
   100
   Other labs: PT / PTT / INR:17.3/40.9/1.6, Differential-Neuts:65.0 %,
   Band:25.0 %, Lymph:9.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL,
   Lactic Acid:3.2 mmol/L, LDH:3876 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:6.0 mg/dL
   Fluid analysis / Other labs: gap= 30 --> 16
   svO2--74
   11.9  -->  13.4
   Imaging: no new film since admit
   Microbiology: urine, bl pending
   Assessment and Plan
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, s/p trach presents with hypotension, arf, sepsis, likely
   from urosepsis
   # hypotension-from sepsis,
   bl and urine cx pending
   fluid resus--> cvp > 10, wean pressors MAP > 60
   SVO2 > 70%
   trend lactates
   prior uti cipro resis --cover with vanco, cefe
   [**Hospital1 **] regarding amikacin on med list
   ecg without acute changes
   on prednisone --[**Last Name (un) 45**] stim inadequate response--> stress dose
   # distended abd--low suspicion of ischemic gut, nontender exam, heme
   neg rectal, surgery following
   serial exams, trend lactates, wean pressors
   # ARF--in setting of sig hypotension, hypovelmia--likely ATN from
   sepsis low flow +  pre-renal
   foley changed in ed,
   picking up with hydration
   check urine lytes
   #  met acidosis
   initially gap 30--likely from lactate and arf
   now nongap liekly from saline resus
   transfuse prbc's LR
   follow lytes
   # resp failure
   oxygenating well with clear cxr--> wean o2
   over breathing on ACV
   more comfortable on PS with excellent volumes  but not adequately
   correcting for met acidosis, follow abg, if trending down will change
   to acv and incresae sedation
   # COPD--wheezy, on steroid taper--> continue prednisone
   mdis
   # diastolic dysf--appeared dry on admit
   hold lasix, on pressors
   # htn--hold meds, hypotensive
   # sz d/o -- continue trileptal
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2139-6-27**] 05:51 PM
   Multi Lumen - [**2139-6-27**] 05:52 PM
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Comments: d/c fem line
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-06-29 10:46:00 Physician Attending Progress Note
Chief Complaint: fevers, hypotension/sepsis, arf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, s/p trach presents with hypotension, arf,  from urosepsis
   24 Hour Events:
   blood cx's-->CPS
 bottles
   pressors weaned off
   History obtained from ho
   Patient unable to provide history: Sedated
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Vancomycin - [**2139-6-28**] 09:07 AM
   Cefipime - [**2139-6-28**] 02:24 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-6-29**] 08:23 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-6-29**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.7
C (98
   HR: 106 (99 - 109) bpm
   BP: 136/69(95) {91/48(61) - 172/89(124)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 10 (7 - 20)mmHg
   Total In:
                                                                  3,610 mL
                                                                    510 mL
   PO:
   TF:
                                                                    138 mL
   IVF:
                                                                  2,460 mL
                                                                     23 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    319 mL
                                                                     94 mL
   Urine:
                                                                    319 mL
                                                                     94 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,291 mL
                                                                    416 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 599 (489 - 616) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.31/34/123/16/-8
   Ve: 11.4 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, tremulous w/
   touching
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   trached
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, BS
   hypoactive
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   218 K/uL
   137 mg/dL
   3.2 mg/dL  (2.5)
   16 mEq/L  (19--> 15)
   5.2 mEq/L
   39 mg/dL
   118 mEq/L
   145 mEq/L
   27.0 %
   14.0 K/uL
        [image002.jpg]
                             [**2139-6-27**]  07:09 PM
                             [**2139-6-27**]  07:57 PM
                             [**2139-6-28**]  12:22 AM
                             [**2139-6-28**]  03:40 AM
                             [**2139-6-28**]  06:30 AM
                             [**2139-6-28**]  10:43 AM
                             [**2139-6-28**]  09:04 PM
                             [**2139-6-28**]  11:50 PM
                             [**2139-6-29**]  05:00 AM
                             [**2139-6-29**]  05:10 AM
   WBC
   17.3
   16.7
   13.2
   14.0
   Hct
   27.5
   22.1
   26.3
   27.0
   Plt
   [**Telephone/Fax (3) 2801**]18
   Cr
   3.1
   2.5
   3.1
   3.2
   TCO2
   22
   22
   19
   18
   17
   18
   Glucose
   200
   100
   126
   137
   Other labs: PT / PTT / INR:17.0/37.1/1.5, Differential-Neuts:60.0 %,
   Band:14.0 %, Lymph:26.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL,
   Lactic Acid:1.3 mmol/L, LDH:3876 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:5.4 mg/dL
   Imaging: cxr--? skin fold vs effusion L base, no other focal
   infiltrate, trach, IJ ok
   Microbiology: cx's--[**6-27**] bl [**2-13**] cps
   urine cx pending
   Assessment and Plan
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, resp failure s/p trach presents with fevers, hypotension,
   arf
   # hypotension/urosepsis, now with cps in blood (recent line inf at OSH)
   CPS in blood, u/a dirty,
   cvp > 10, off pressors MAP > 60
   con
t  vanco (level), cefe
   echo (eval veggies given + bl cx, no indwelling line), check
   urveillance cx
   lactates normalized
   [**Hospital1 **] regarding ? amikaci/antibx on med list on med list
   on prednisone [**Last Name (un) 45**] stim inadequate response --> stress dosed
 taper as
   now of pressors
   # distended abd--low suspicion of ischemic gut, nontender exam, heme
   neg rectal
   surgery following
abd remains distended
   lactate normalized
   will check abd ct
   # ARF--in setting of sig hypotension, hypovelmia--likely ATN from
   sepsis low flow +  pre-renal
   Intiially responded to hydration now increasing, lactates stable
   Cvp 10
   Making urine
   [**Hospital1 **] labs
   Check urine lytes,
   #  met acidosis
   initially gap 30--likely from lactate and arf
   now nongap [**3-14**] from NS resus
   follow lytes
   # resp failure
   oxygenating well
   over breathing on ACV/dysynchronous and more comfortable on PS with
   excellent volumes  but not adequately correcting for met acidosis,
   follow abg, if ph  trending down change to acv and increase sedation
   # COPD--wheezy, on steroid taper on admit-> taper stress dose steroids
   mdis
    # increased LDH
repeat, other lft
s nl, hct stable, hemolysis
   # diastolic dysf--appeared dry on admit
   hold lasix, on pressors
   # htn
meds held for hypotension, now htn
restart BB (holding dilt and
   hydral) and lasix
   # sz d/o -- continue trileptal
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-6-29**] 12:45 AM 20 mL/hour
   Glycemic Control:  Comments: no needed
   Lines:
   Arterial Line - [**2139-6-27**] 05:51 PM
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2139-06-30 07:19:00 Physician Resident Progress Note
Chief Complaint: Septic shock, acute renal failure
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2139-6-29**] 01:30 PM
   - CT Abdomen: No obstruction, passing contrast well
   - Vanco level 27 repeat level 25.
   - On Prednisone 15mg daily now that she is off pressors
   - LDH Elevated (2900) - added sputum PCP, [**Name10 (NameIs) 2309**] [**Name Initial (NameIs) **]. Bili, ? underlying
   malignancy.
   - BP Control - started metoprolol in AM, and added hydral in PM,
   uptitrated metoprolol in PM.
   - OSH Records: 04/25 1/4 bottles from PICC had Staph Hominus tx'd with
   Vanc/Amikacin x1-4 weeks - amikacin d/c 0516, repeat Cx on [**6-9**] and
   [**6-27**] are NGTD.
   - On 8 PEEP, 12 PS during day,
   - o/n -> Urine lytes c/w pre-renal (FeNa 0.9%), (FeUrea 25%), bolused
   2.5L LR for low UOP but w/o response CVP goal [**1-24**] achieved.
   - Echo: no vegetations, limited study.
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Vancomycin - [**2139-6-28**] 09:07 AM
   Cefipime - [**2139-6-29**] 02:40 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-6-29**] 02:01 PM
   Morphine Sulfate - [**2139-6-29**] 02:01 PM
   Heparin Sodium (Prophylaxis) - [**2139-6-30**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-6-30**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 93 (92 - 107) bpm
   BP: 185/89(125) {125/66(90) - 185/91(127)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (10 - 15)mmHg
   Total In:
                                                                  4,919 mL
                                                                    560 mL
   PO:
   TF:
                                                                    358 mL
                                                                    202 mL
   IVF:
                                                                  2,911 mL
                                                                     67 mL
   [**Year (4 digits) 1526**] products:
   Total out:
                                                                    208 mL
                                                                     66 mL
   Urine:
                                                                    208 mL
                                                                     66 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,711 mL
                                                                    494 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 568 (524 - 624) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.31/34/140/16/-8
   Ve: 9.2 L/min
   PaO2 / FiO2: 350
   Physical Examination
   GENERAL: Awake, responding to voice, but not answering questions.  In
   NAD, with tremulousness
   CARDIAC: Regular rhythm, normal rate, no murmurs
   LUNGS: course ventilated breath sounds
   ABDOMEN: Distended, firm, with active bowel sounds.  No wincing with
   palpation
   EXTREMITIES: Warm, well-perfused, 2+ pitting edema bilaterally, which
   is new.  2+ pulses x4
   Labs / Radiology
   209 K/uL
   8.5 g/dL
   134 mg/dL
   3.0 mg/dL
   16 mEq/L
   4.4 mEq/L
   41 mg/dL
   116 mEq/L
   142 mEq/L
   25.1 %
   16.5 K/uL
        [image002.jpg]
                             [**2139-6-28**]  06:30 AM
                             [**2139-6-28**]  10:43 AM
                             [**2139-6-28**]  09:04 PM
                             [**2139-6-28**]  11:50 PM
                             [**2139-6-29**]  05:00 AM
                             [**2139-6-29**]  05:10 AM
                             [**2139-6-29**]  12:24 PM
                             [**2139-6-29**]  03:26 PM
                             [**2139-6-30**]  02:00 AM
                             [**2139-6-30**]  02:19 AM
   WBC
   13.2
   14.0
   16.5
   Hct
   26.3
   27.0
   25.1
   Plt
   [**Telephone/Fax (3) 2809**]
   Cr
   3.1
   3.2
   3.2
   3.3
   3.0
   TCO2
   19
   18
   17
   18
   18
   Glucose
   126
   137
   167
   119
   134
   Other labs: PT / PTT / INR:16.3/32.4/1.5, Differential-Neuts:60.0 %,
   Band:14.0 %, Lymph:26.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:2958 IU/L, Ca++:7.6
   mg/dL, Mg++:1.9 mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: Urine lytes: FeNa= 0.9%, Feurea=25%
   Imaging: CT abdomen:
   1. Patchy airspace opacities seen at the lung base as noted.
   2. Possible mass lesion within the interpolar region of the right
   kidney for
   which further evaluation by contrast-enhanced CT or MRI is recommended.
   3. Cholelithiasis.
   4. Large lipoma is again seen within the pelvis on the right.
   Echo:
   The left atrium is normal in size. Left ventricular wall thicknesses
   and cavity size are normal. Due to suboptimal technical quality, a
   focal wall motion abnormality cannot be fully excluded. Overall left
   ventricular systolic function is low normal (LVEF 50-55%). The number
   of aortic valve leaflets cannot be determined. The aortic valve is not
   well seen. The mitral valve leaflets are mildly thickened. No masses or
   vegetations are seen on the mitral valve, but cannot be fully excluded
   due to suboptimal image quality. Mild (1+) mitral regurgitation is
   seen. There is no pericardial effusion.
   IMPRESSION: Suboptimal image quality. Cannot assess endocarditis. If
   clinically indicated, a TEE is recommended.
   Microbiology: Sputum PCP: [**Name10 (NameIs) **]
   [**Name11 (NameIs) 1526**]: 1/4 [**6-27**] with coag + staph, sensitive to vancomycin
   [**Date range (1) 2810**] with NGTD
   Urine [**6-28**]: contanminated
   Urine [**6-29**]: NGTD
   Assessment and Plan
   Ms [**Known lastname 1161**] is a 69F with multiple medical problems including COPD,
   diastolic dysfunction (EF 50%), DM, and respiratory failure s/p
   tracheostomy; who presented with fever,hypotension, and acute renal
   failure.  Found to have a positive UA, coagulase positive staph
   bacteremia and pre-renal failure not responsive to fluids.
   Septic shock: Now weaned off pressors, with CVPs and MAPs at goal and
   afebrile x 24hrs.  [**Known lastname 1526**] cultures with 1/4 bottles positive with coag
   positive staph sensitive to vancomycin, urine still [**Known lastname 1257**] with
   positive UA.  Treated with cefepime for presumed UTI based on past
   urine cultures and sensitivities, and vancomycin given hx of PICC
   infection.  Per OSH, this was staph hominis for which the patient had
   received a course of vanc and amikacin, with negative surveillance
   cultures.  Echo inconclusive with poor imaging quality, nothing seen on
   valves.
   -continue vanc and cefepime, renally dosing with daily vanc troughs
   -continue to monitor CVP and MAP, keeping at goal with IVF adding
   pressors prn
   -S/p stress dose steroids with inadequate [**Last Name (un) 45**] stim response, now
   tapering as off pressors
   -consider TEE to completely r/o endocarditis
   -surveillance cultures until negative
   Elevated LDH: PCP added on to sputum
   -f/u PCP in sputum
   [**Name9 (PRE) 2818**] showing renal mass, will need MRI vs. CT with contrast to further
   evaluate when renal failure stabilizes
    Distended abdomen: On admission noted to have a distended abdomen,
   lactates normalized, and guaiac negative.  Surgery recommending serial
   abdominal exams only, CT ab/pelvis negative for obstruction.
   -Serial exams
   -F/u final read CT
   ARF: Urine lytes with FeNa of 0.9%, and FeUrea of 25% reflecting
   pre-renal failure.  Very hypovolemic on admission, but has been
   minimally responsive to fluids with oliguria despite CVPs and MAPs at
   goal.  ATN also in the differential as this occured in the setting of
   hypotension.  Given home lasix dose with minimal response
   -Continue to maintain CVP 10-12
   -ATN usuallly resolves, in the [**Last Name (LF) 2811**], [**First Name3 (LF) 178**] check [**Hospital1 **] lytes to
   ensure there is no urgent need for dialysis
   -?lasix to get UOP going
   Metabolic acidosis: Initially a gap of 30 with elevated lactate, now
   with a closed gap and normalized lactate, likely secondary to normal
   saline
   -Monitor lytes
   -LR for fluids
   Respiratory failure: Chronically requires intermittent ventilator
   through tracheostomy.  Currently on PSV- [**1-18**], with an FiO2 of 40%,
   pulling tidal volumes of 524-624, PIPs<30. Most recent ABG 7.31/34/140
   with a metabolic acidosis.  Most recent RISBI 55
   -consider weaning vent today
   COPD-
   -continue nebs
   -Steroid taper
   HTN: restarted metoprolol and hydralazine
   -Restart dilt today
   Diastolic dysfunction
   -Restarting beta blocker, holding lasix
   Seizure disorder:
   -continue home trileptal
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-6-30**] 01:37 AM 30 mL/hour
   Glycemic Control:  Comments: Not needed
   Lines:
   Arterial Line - [**2139-6-27**] 05:51 PM
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2139-06-30 11:08:00 Physician Attending Progress Note
Chief Complaint: septic shock, arf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, resp failure s/p trach presents with fevers, hypotension,
   arf
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2139-6-29**] 01:30 PM--limited study, no
   veggies seen, low nl ef
   ct abd--no ev of sbo, abscess, R infrarenal mass seen
   stress decadron--> prednisone
   antihtn meds restarted--> metoprolol, hydral
   OSH records obtained--> [**Month (only) 1996**] with staph picc line inf, completed
   course amikacin and vanco, surveillance cx's ngtd
   urine output low- -> IVF bolused--> now 20 cc/hr
   History obtained from ho
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Vancomycin - [**2139-6-28**] 09:07 AM
   Cefipime - [**2139-6-30**] 09:16 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-6-29**] 02:01 PM
   Morphine Sulfate - [**2139-6-29**] 02:01 PM
   Heparin Sodium (Prophylaxis) - [**2139-6-30**] 04:20 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-6-30**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (97
   HR: 98 (91 - 107) bpm
   BP: 175/86(123) {125/66(90) - 185/91(127)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 16 (10 - 16)mmHg
   Total In:
                                                                  4,919 mL
                                                                    898 mL
   PO:
   TF:
                                                                    358 mL
                                                                    321 mL
   IVF:
                                                                  2,911 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                    208 mL
                                                                    131 mL
   Urine:
                                                                    208 mL
                                                                    131 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,711 mL
                                                                    767 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 625 (524 - 659) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.31/34/140/16/-8
   Ve: 12.8 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Anxious,
   tremulous with touch
   Eyes / Conjunctiva: PERRL, L gaze
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli,less alert,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   8.5 g/dL
   209 K/uL
   134 mg/dL
   3.0 mg/dL (3.4->2.5->3.3)
   16 mEq/L
   4.4 mEq/L
   41 mg/dL
   116 mEq/L
   142 mEq/L
   25.1 %
   16.5 K/uL
        [image002.jpg]
                             [**2139-6-28**]  06:30 AM
                             [**2139-6-28**]  10:43 AM
                             [**2139-6-28**]  09:04 PM
                             [**2139-6-28**]  11:50 PM
                             [**2139-6-29**]  05:00 AM
                             [**2139-6-29**]  05:10 AM
                             [**2139-6-29**]  12:24 PM
                             [**2139-6-29**]  03:26 PM
                             [**2139-6-30**]  02:00 AM
                             [**2139-6-30**]  02:19 AM
   WBC
   13.2
   14.0
   16.5
   Hct
   26.3
   27.0
   25.1
   Plt
   [**Telephone/Fax (3) 2809**]
   Cr
   3.1
   3.2
   3.2
   3.3
   3.0
   TCO2
   19
   18
   17
   18
   18
   Glucose
   126
   137
   167
   119
   134
   Other labs: PT / PTT / INR:16.3/32.4/1.5, Differential-Neuts:60.0 %,
   Band:14.0 %, Lymph:26.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:2958 IU/L, Ca++:7.6
   mg/dL, Mg++:1.9 mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: fena 0.9
   Imaging: ct abd--> patchy asd lung bases, possible R kidney mass,
   gallstones, lipoma, neg abscess, sbo
   echo TT--no obvious veggies, limited study, low nl ef
   no cxr today
   Microbiology:
   sputum dfa pcp [**Name Initial (PRE) 1257**]
   [**6-27**]--[**2-13**] cps, [**Doctor Last Name **] vanco
 staph areus
   urine [**6-29**]--pending
   osh [**6-27**]--blood cx's neg
   Assessment and Plan
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, resp failure s/p trach presents with fevers, hypotension,
   arf
   Clinically improving.  Potential sources include urine and blood --CPS
   (recent line infection, ? SBE)
   Active  issues remain:
   # septic shock
   off pressors MAP > 60, lactate nl, cvps > 10
   stopped stress steroids and resumed pred taper
   antibx
   f/u cx data
      ## CPS bacteremia, await sensies
   Vanco (level)
   continue eval for potential source
    - Ct abd neg for abscess
    - TEE
     ## urine/urosepsis
   Cont cefepime
   f/u cx
                                                                       6.4
   # abd distention
   Non tender exam, heme neg rectal, lactates normalized
   No evidence of abscess/sbo on ct
   # ARF--in setting of sig hypotension, hypovolemia--likely ATN from
   sepsis low flow +  pre-renal on admit
   Initially responded to hydration now increasing, cvp at goal, appears
   adequately fluid up
   - Making urine
 watch, then consider trial of lasix
   - Check urine lytes
   - repeat [**Hospital1 **]
   - check urine eos
   #  met acidosis
   initially gap 30--likely from lactate and arf
   now nongap [**3-14**] from NS resus
LR if needs IVF
   follow lytes
   # resp failure
   oxygenating well
   doing welkl on PS with excellent volumes
   metabolic acidosis
   PS weans
   follow abg, if ph  trending down -
 change to acv
   # COPD--wheezy, on steroid taper on admit-> taper stress dose steroids
   mdis
   # increased LDH
> without signs of hemolysis, other lft
s nl, hct
   stable,
   PCP dfa pending ( on prolonged steroid taper and not on pcp [**Name Initial (PRE) 1316**])
   though high for PCP
   # diastolic dysf--appeared dry on admit
   Holding lasix as above
   # htn
meds intiailly held for hypotension,
   now htn
> restarted BB and hydral)
   # sz d/o -- ? sz activity vs tremors, continue trileptal, eeg
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-6-30**] 09:54 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: if needed
   Lines:
   Arterial Line - [**2139-6-27**] 05:51 PM
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI (steroids)
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-07-01 07:38:00 Physician Resident Progress Note
Chief Complaint: Acute Renal Failure, ?Urosepsis
   24 Hour Events:
 EEG - At [**2139-6-30**] 02:00 PM
   -TEE fellow holding off until blood cultures are negative
   -EEG done, read pending
   -Urine eosinophils returned as rare positive
   -Added on home diltiazem
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Vancomycin - [**2139-6-28**] 09:07 AM
   Cefipime - [**2139-6-30**] 09:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-6-30**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-1**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 86 (79 - 102) bpm
   BP: 172/86(119) {137/76(110) - 176/116(136)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 21 (13 - 22)mmHg
   Total In:
                                                                  1,903 mL
                                                                    392 mL
   PO:
   TF:
                                                                    733 mL
                                                                    220 mL
   IVF:
                                                                    290 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    401 mL
                                                                    220 mL
   Urine:
                                                                    401 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,502 mL
                                                                    172 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 505 (505 - 659) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.28/31/153/16/-10
   Ve: 10.4 L/min
   PaO2 / FiO2: 383
   Physical Examination
   General Appearance: tachypneic
   Eyes / Conjunctiva: disconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, arousable to sternal rub only, does not withdraw to pain
   Labs / Radiology
   227 K/uL
   8.7 g/dL
   100 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.1 mEq/L
   48 mg/dL
   110 mEq/L
   137 mEq/L
   27.2 %
   13.6 K/uL
        [image002.jpg]
                             [**2139-6-28**]  09:04 PM
                             [**2139-6-28**]  11:50 PM
                             [**2139-6-29**]  05:00 AM
                             [**2139-6-29**]  05:10 AM
                             [**2139-6-29**]  12:24 PM
                             [**2139-6-29**]  03:26 PM
                             [**2139-6-30**]  02:00 AM
                             [**2139-6-30**]  02:19 AM
                             [**2139-7-1**]  03:44 AM
                             [**2139-7-1**]  03:49 AM
   WBC
   13.2
   14.0
   16.5
   13.6
   Hct
   26.3
   27.0
   25.1
   27.2
   Plt
   [**Telephone/Fax (3) 2834**]27
   Cr
   3.1
   3.2
   3.2
   3.3
   3.0
   3.5
   TCO2
   17
   18
   18
   15
   Glucose
   126
   137
   167
   119
   134
   100
   Other labs: PT / PTT / INR:12.9/33.6/1.1, ALT / AST:808/359, Alk Phos /
   T Bili:142/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.8 g/dL, LDH:644 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.1
   mg/dL
   Fluid analysis / Other labs:
   ABG: 7.28/31/153
   Imaging: CT A/P: IMPRESSION:
   1. Patchy airspace opacities seen at the lung base as noted.
   2. Possible mass lesion within the interpolar region of the right
   kidney for
   which further evaluation by contrast-enhanced CT or MRI is recommended.
   3. Cholelithiasis.
   4. Large lipoma is again seen within the pelvis on the right.
   ------
   CXR:
   Microbiology: BCx: [**2-13**] from [**6-27**] w/ MRSA
   UCx: [**6-29**]: >100K GNR
   Assessment and Plan
   Ms [**Known lastname 1161**] is a 69F with multiple medical problems including COPD,
   diastolic dysfunction (EF 50%), DM, and respiratory failure s/p
   tracheostomy; who presented with fever,hypotension, and acute renal
   failure.  Found to have a positive UA, coagulase positive staph
   bacteremia and pre-renal failure not responsive to fluids.
   .
   Septic shock: Now weaned off pressors, with CVPs and MAPs at goal and
   afebrile x 24hrs.  Blood cultures with 1/4 bottles positive with coag
   positive staph sensitive to vancomycin, urine with positive UA and now
   with UCx >100K GNR.  Treated with cefepime for presumed UTI but
   cultures growing on antibiotics.  Previous urine cultures sensitive.
   Per OSH, only culture was staph hominis in blood for which the patient
   had received a course of vanc and amikacin, with negative surveillance
   cultures.  Echo inconclusive with poor imaging quality, nothing seen on
   valves.
   -continue vanc and cefepime, renally dosing with daily vanc troughs
   -continue to monitor CVP and MAP, keeping at goal with IVF adding
   pressors prn although currently hypertensive
   -S/p stress dose steroids with inadequate [**Last Name (un) 45**] stim response, now
   tapering as off pressors
 on home prednisone dose.
   -consider TEE to completely r/o endocarditis
 but given increasing
   likelihood that this is contaminant will hold on TEE for now.
   -surveillance cultures until negative
   - Continue cefepime until sensitivities on urine returned and narrow as
   indicated.  Change foley, repeat Ua, UCx s/p foley change.
   - Culture data from [**Hospital1 82**] (up to date as of today): BCx: [**6-27**] :
   NGTD [**5-15**], [**6-9**]: NGTD
 finalized, [**6-5**]: Staph Hominus
 bottles
   finalized.
   .
   Mental Status: This AM arousable only to sternal rub and with
   difficulty maintaining alertness.  New fentanyl patch applied earlier.
   Change to lower dose.  Finger stick normal.  Avoid other sedating
   medications.  ABG without CO2 narcosis.  Had been getting benzos
   overnight and given new liver dysfunction may be impaired hepatic
   metabolism of benzos, acidosis, UTI.
   - CT head this AM.
   - Repeat Ua, Ucx
   - decrease fentanyl patch
   - EEG negative for seizure activity
 just tox/met encephalopathy.
   .
   Elevated LDH: PCP added on to sputum, no e/o hemolysis at this time and
   LDH returning to normal.
   -f/u PCP in sputum
   [**Name9 (PRE) 2818**] showing renal mass, will need MRI vs. CT with contrast to further
   evaluate when renal failure stabilizes
   .
   ARF: Urine lytes with FeNa of 0.9%, and FeUrea of 25% reflecting
   pre-renal failure.  Very hypovolemic on admission, but has been
   minimally responsive to fluids with oliguria despite CVPs and MAPs at
   goal.  ATN also in the differential as this occured in the setting of
   hypotension.
   -Continue to maintain CVP 10-12
   -ATN usuallly resolves, in the [**Last Name (LF) 2811**], [**First Name3 (LF) 178**] check [**Hospital1 **] lytes to
   ensure there is no urgent need for dialysis
   -?lasix to get UOP going
   .
   HTN: restarted metoprolol hydralazine and diltiazem
   - Restart dilt yesterday
   - uptitrate Metoprolol to 50 TID and further as tolerated/needed
   .
   Respiratory Failure/COPD-Currently with metabolic acidosis and
   respiratory compensation.  Serum pH more acidotic today and patient
   clearly tacypneic on exam.  Follow with [**Hospital1 **] ABG's and consider
   increasing ventilatory support PRN -- currently on [**9-18**] of PSupp.
   -continue nebs
   -Repeat ABG in PM and consider A/C for assistance with maintaining pH.
   Distended abdomen: On admission noted to have a distended abdomen,
   lactates normalized, and guaiac negative.  Surgery recommending serial
   abdominal exams only, CT ab/pelvis negative for obstruction.
   -Serial exams
   -F/u final read CT
   .
   Metabolic acidosis: Initially a gap of 30 with elevated lactate, now
   with a closed gap and normalized lactate, likely secondary to normal
   saline
   -Monitor lytes
   -LR for fluids
   - repeat lactate level on next ABG.
   .
   Diastolic dysfunction
   -Restarting beta blocker, holding lasix
   .
   Seizure disorder:
   -continue home trileptal
   .
   Nutrition: Tube feeds, check finger sticks
   Access: Central Line, A-Line.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-7-1**] 02:08 AM 30.[**Telephone/Fax (5) 2835**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2139-6-27**] 05:51 PM
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-07-01 13:05:00 Physician Attending Progress Note
Chief Complaint: hypotension, arf, mrsa bacteremia, urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, resp failure s/p trach presents with fevers, hypotension,
   arf
   24 Hour Events:
 EEG - At [**2139-6-30**] 02:00 PM--neg for sz activity, toxic metabolic
   encephalopathy
   urine studies--rare eos
   fe Bun . 35%
   diltiazem restarted for htn
   very somnolent this am
 fent patch d/c
   History obtained from ho
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-1**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-6-30**] 08:08 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-1**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 92 (79 - 102) bpm
   BP: 166/77(109) {137/76(109) - 176/137(152)} mmHg
   RR: 19 (19 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 16 (13 - 22)mmHg
   Total In:
                                                                  1,903 mL
                                                                    742 mL
   PO:
   TF:
                                                                    733 mL
                                                                    316 mL
   IVF:
                                                                    290 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    401 mL
                                                                    375 mL
   Urine:
                                                                    401 mL
                                                                    370 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,502 mL
                                                                    367 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 531 (481 - 587) mL
   PS : 8 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.28/31/153/16/-10
   Ve: 9.5 L/min
   PaO2 / FiO2: 383
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Wheezes : scant, Diminished: b/b)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   227 K/uL
   100 mg/dL
   3.5 mg/dL (3.0)
   16 mEq/L
   4.1 mEq/L
   48 mg/dL
   110 mEq/L
   137 mEq/L
   27.2 %
   13.6 K/uL
        [image002.jpg]
                             [**2139-6-28**]  09:04 PM
                             [**2139-6-28**]  11:50 PM
                             [**2139-6-29**]  05:00 AM
                             [**2139-6-29**]  05:10 AM
                             [**2139-6-29**]  12:24 PM
                             [**2139-6-29**]  03:26 PM
                             [**2139-6-30**]  02:00 AM
                             [**2139-6-30**]  02:19 AM
                             [**2139-7-1**]  03:44 AM
                             [**2139-7-1**]  03:49 AM
   WBC
   13.2
   14.0
   16.5
   13.6
   Hct
   26.3
   27.0
   25.1
   27.2
   Plt
   [**Telephone/Fax (3) 2834**]27
   Cr
   3.1
   3.2
   3.2
   3.3
   3.0
   3.5
   TCO2
   17
   18
   18
   15
   Glucose
   126
   137
   167
   119
   134
   100
   Other labs: PT / PTT / INR:12.9/33.6/1.1, ALT / AST:808/359, Alk Phos /
   T Bili:142/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.8 g/dL, LDH:644 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.1
   mg/dL
   Imaging: ct abd/pelvis--renal mass, R kidney, gallstones, patchy b/b
   asd
   cxr--without change, no focal inf, line trach ok
   Microbiology: bl [**6-27**]--MRSA 1/8 bottles
   [**6-29**] urine > 100,000 GNR
   Assessment and Plan
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, resp failure s/p trach presents with fevers, hypotension,
   arf
   Presumed urosepsis, also with 1/8 bl cx with staph arueus, ? skin
   contaminant given mutliple neg cxs and recent course of treatment for
   line ifection.  Now more somnolent, unarousable this am.
   Active  issues remain:
   # septic shock
    ## presumed urosepsis, with GNR from [**6-29**] in u cx
   Bp maintenained off pressors, MAPS > 60, lactate nl, cvps > 10
   continue cefepime
[**Last Name (un) **] results, change foley, recheck cx, consider
   change in antibx coverage
   f/u cx data
      ## CPS bacteremia, [**2-17**] cx
s, no
   Vanco (level)
continue for now pending further cx results
    Ct abd neg for abscess
   TEE
holding given mutplie neg cx, s
   F./u osh results
     ## urine/urosepsis
   Cont cefepime
   f/u cx
    ## Altered MS
   Now with transminitis primarily, nl bili (? Shock liver) nl except for
   ldh on admit but was hypotensive oj pressors
   Med related, not clearing benzos
   Eeg without sz
   Head ct given change in ms
   [**Name13 (STitle) **] sedation
   Has been htn
despite adding back meds ? pres
   #  increased LDH
> without signs of hemolysis, other lft
s nl, hct
   stable,
   PCP dfa pending ( on prolonged steroid taper and not on pcp [**Name Initial (PRE) 1316**])
   though high for PCP
   # ARF--likely ATN from sepsis low flow +  pre-renal on admit
   Initially responded to hydration, cvp at goal, appears adequately fluid
   up
   u/o improving, though bun/cr reamins elevated
   consider trial of lasix
   #  met acidosis
   initially gap 30 likely from lactate and arf
   nongap [**3-14**] from NS resus
   now likely primarily related to renal failure
   follow lytes
   change back to ACV to compensate with met acidosis
   # resp failure
   oxygenating well
   on PS with excellent volumes but not keeping up with met
   acidosis
change back to ACV
   # htn -> restarted BB and hydral
   # sz d/o
 eeg without evidence of sz
   continue trileptal
   # COPD
resumed steroid taper
   mdis
   # diastolic dysf--appeared dry on admit
   Holding lasix as above
   ICU Care
   Nutrition:
   Comments: tfs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2139-6-27**] 05:51 PM
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2139-07-02 07:23:00 Physician Resident Progress Note
Chief Complaint: Acute Renal Failure
   24 Hour Events:
   - head ct negative, no PRES
   - repeat abg was 7.33/30/142 so kept on PS
   - urine speciation to be in today
   - sputum mrsa and pseudomonas which is cefepime sensitive
   - BP still high with increase in lopressor, increased hydralazine to
   50mg q6h from 25mg q6h
   - mental status improving
   - holding all hepatotoxic meds given inc. lft, LFT's ae actually
   trending down, added labs to 2 days ago
   - replaced foley and repeat u/a sent
   - renal mass noticed in [**2137**] and has increased in size 1.5 cm now 2.0
   cm, rec MRI per radiology since [**2137**]
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-1**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2139-7-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-7-2**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-2**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 81 (76 - 99) bpm
   BP: 135/65(84) {135/65(84) - 164/91(109)} mmHg
   RR: 25 (19 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 16 (14 - 26)mmHg
   Total In:
                                                                  1,709 mL
                                                                    559 mL
   PO:
   TF:
                                                                    828 mL
                                                                    209 mL
   IVF:
                                                                    191 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    380 mL
   Urine:
                                                                    815 mL
                                                                    380 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    889 mL
                                                                    179 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 532 (481 - 581) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.33/30/142//-8
   Ve: 12.6 L/min
   PaO2 / FiO2: 355
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: gaze disconjugate, pupils minimally reactive -> no
   change from yesterday
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : anteriorly)
   Abdominal: Soft, No(t) Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed,
   minimally responsive to sternal rub, yawns during exam, and moves head
   but is not easily arousable
   Labs / Radiology
   227 K/uL
   8.7 g/dL
   100 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.1 mEq/L
   48 mg/dL
   110 mEq/L
   137 mEq/L
   27.2 %
   13.6 K/uL
        [image002.jpg]
                             [**2139-6-28**]  11:50 PM
                             [**2139-6-29**]  05:00 AM
                             [**2139-6-29**]  05:10 AM
                             [**2139-6-29**]  12:24 PM
                             [**2139-6-29**]  03:26 PM
                             [**2139-6-30**]  02:00 AM
                             [**2139-6-30**]  02:19 AM
                             [**2139-7-1**]  03:44 AM
                             [**2139-7-1**]  03:49 AM
                             [**2139-7-1**]  06:10 PM
   WBC
   13.2
   14.0
   16.5
   13.6
   Hct
   26.3
   27.0
   25.1
   27.2
   Plt
   [**Telephone/Fax (3) 2834**]27
   Cr
   3.1
   3.2
   3.2
   3.3
   3.0
   3.5
   TCO2
   18
   18
   15
   17
   Glucose
   126
   137
   167
   119
   134
   100
   Other labs: PT / PTT / INR:12.9/33.6/1.1, ALT / AST:808/359, Alk Phos /
   T Bili:142/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.8 g/dL, LDH:644 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.1
   mg/dL
   Fluid analysis / Other labs:
   7.32/35/138
   Imaging: CT Head:IMPRESSION: No evidence of acute intracranial process.
   Interval removal of endotracheal and nasogastric tubes with improved
   aeration in the visualized paranasal sinuses; opacification of the
   sphenoid sinus and mastoid air cells
   persists.
   .
   EEG: IMPRESSION: This is an abnormal portable EEG due to persistent
   delta
   frequency slowing in the left temporal region consistent with an
   underlying area of cortical and subcortical dysfunction. The tracing
   cannot specify the etiology. In addition, the background was
   disorganized, slow, and interrupted by bursts of moderate amplitude
   generalized delta frequency slowing. This latter constellation of
   findings is consistent with a moderate global diffuse encephalopathy
   and
   suggests dysfunction of bilateral subcortical or deep midline
   structures. Medications, metabolic disturbances, infection and anoxia
   are among the common causes of encephalopathy but there are others.
   There were no epileptiform features and no electrographic seizure
   activity was noted.
   Microbiology: Sputum [**6-28**]: MRSA+, +Pseudomonas
   Assessment and Plan
   Ms [**Known lastname 1161**] is a 69F with multiple medical problems including COPD,
   diastolic dysfunction (EF 50%), DM, and respiratory failure s/p
   tracheostomy; who presented with fever,hypotension, and acute renal
   failure.  Found to have a positive UA, coagulase positive staph
   bacteremia and pre-renal failure not responsive to fluids.
   .
   Septic shock: Now weaned off pressors, with CVPs and MAPs at goal and
   afebrile.  Blood cultures with 1/4 bottles positive with coag positive
   staph sensitive to vancomycin, urine with positive UA and now with UCx
   >100K GNR.  Treated with cefepime for presumed UTI but cultures growing
   on antibiotics.  Previous urine cultures sensitive.  Per OSH, only
   culture was staph hominis in blood for which the patient had received a
   course of vanc and amikacin, with negative surveillance cultures.  Echo
   inconclusive with poor imaging quality, nothing seen on valves.
   -continue vanc and cefepime, renally dosing with daily vanc troughs
   -continue to monitor CVP and MAP, keeping at goal with IVF adding
   pressors prn although currently hypertensive
   -S/p stress dose steroids with inadequate [**Last Name (un) 45**] stim response, now
   tapering as off pressors
 on home prednisone dose.
   -consider TEE to completely r/o endocarditis
 but given increasing
   likelihood that this is contaminant will hold on TEE for now.
   -surveillance cultures until negative
   - Continue cefepime until sensitivities on urine returned and narrow as
   indicated.  Change foley, repeat Ua, UCx s/p foley change.
   - Culture data from [**Hospital1 82**] (up to date as of today): BCx: [**6-27**] :
   NGTD [**5-15**], [**6-9**]: NGTD
 finalized, [**6-5**]: Staph Hominus
 bottles
   finalized.
   .
   Mental Status: This AM arousable only to sternal rub and with
   difficulty maintaining alertness.  Holding sedating medications.
   Finger stick normal.  ABG without CO2 narcosis.  Had been getting
   benzos and given new liver dysfunction may be impaired hepatic
   metabolism of benzos, acidosis, UTI.  CT Head negative/EEG negative.
   Most c/w toxic/metabolic delerium from meds/infections.
   - Consider MRI Brain/LP if febrile.
   - Repeat Ua, Ucx -> pending
   - decrease/hold fentanyl patch for now.
   - EEG negative for seizure activity
 just tox/met encephalopathy.
   - Obtain more information from family regarding baseline mental status.
   .
   Elevated LDH: PCP added on to sputum, no e/o hemolysis at this time and
   LDH returning to normal.
   -Sputum negative for PCP.
   [**Name10 (NameIs) 2818**] showing renal mass, will need MRI vs. CT with contrast to further
   evaluate when renal failure stabilizes
   .
   ARF: Urine lytes with FeNa of 0.9%, and FeUrea of 25% reflecting
   pre-renal failure.  Very hypovolemic on admission, but has been
   minimally responsive to fluids with oliguria despite CVPs and MAPs at
   goal.  ATN also in the differential as this occured in the setting of
   hypotension.
   -Continue to maintain CVP 10-12
   -ATN usuallly resolves, in the [**Last Name (LF) 2811**], [**First Name3 (LF) 178**] check [**Hospital1 **] lytes to
   ensure there is no urgent need for dialysis
   -?lasix to get UOP going
   .
   HTN: restarted metoprolol hydralazine and diltiazem -> and
   uptitrating.
   - Restart dilt yesterday
   - uptitrate Metoprolol to 50 TID and further as tolerated/needed
   - Needs afterload reduction -> ACE would be ideal but in ARF.  Add
   norvasc today and uptitrate as tolerated.  In interim period use IV
   hydral for diastolic BP > 110.
   .
   Respiratory Failure/COPD-Currently with metabolic acidosis and
   respiratory compensation.  Serum pH stable last 24 hours and is keeping
   up with respiratory drive.  Follow with [**Hospital1 **] ABG's and consider
   increasing ventilatory support PRN -- currently on [**9-18**] of PSupp.
   -continue nebs
   -Repeat ABG in PM and consider A/C for assistance with maintaining pH.
   .
   Distended abdomen: On admission noted to have a distended abdomen,
   lactates normalized, and guaiac negative.  Surgery recommending serial
   abdominal exams only, CT ab/pelvis negative for obstruction.
   -Serial exams
   -F/u final read CT
   .
   Metabolic acidosis: Initially a gap of 30 with elevated lactate, now
   with a closed gap and normalized lactate, likely secondary to normal
   saline
   -Monitor lytes
   -LR for fluids
   - repeat lactate level on next ABG.
   .
   Diastolic dysfunction
   -Restarting beta blocker, holding lasix
   .
   Seizure disorder:
   -continue home trileptal
   .
   Nutrition: Tube feeds, check finger sticks
   Access: Central Line, A-Line.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-7-2**] 04:31 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2139-6-27**] 05:51 PM
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2139-07-02 12:12:00 Physician Attending Progress Note
Chief Complaint: septic shock, arf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, resp failure s/p trach presents with fevers, hypotension,
   arf
   24 Hour Events:
   altered ms
 head ct with no acute process
   on ACV briefly--> continued PS
   hypertensive--> lopressor hydral increased
   renal mass on abd ct
 seen on prior imaging from [**2137**]--> now 1/2 cm
   larger
                                     History obtained from ho
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-2**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2139-7-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-7-2**] 04:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-2**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 83 (76 - 99) bpm
   BP: 131/61(79) {131/61(79) - 164/91(109)} mmHg
   RR: 21 (20 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (14 - 29)mmHg
   Total In:
                                                                  1,709 mL
                                                                    930 mL
   PO:
   TF:
                                                                    828 mL
                                                                    350 mL
   IVF:
                                                                    191 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    640 mL
   Urine:
                                                                    815 mL
                                                                    640 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    889 mL
                                                                    290 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 512 (512 - 581) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.32/35/138/15/-7
   Ve: 12.9 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese,
   somnolent, minimally responsive to voice
   Eyes / Conjunctiva: dysconjugate gaze, min rx pupils
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse:present), (Left DP pulse: present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   No(t) Sedated, no asterixis, cannot elicit clonus
   Labs / Radiology
   9.2 g/dL
   212 K/uL
   113 mg/dL
   3.7 mg/dL (3.5)
   15 mEq/L
   4.7 mEq/L
   51 mg/dL
   107 mEq/L
   136 mEq/L
   27.9 %
   12.8 K/uL
        [image002.jpg]
                             [**2139-6-29**]  05:10 AM
                             [**2139-6-29**]  12:24 PM
                             [**2139-6-29**]  03:26 PM
                             [**2139-6-30**]  02:00 AM
                             [**2139-6-30**]  02:19 AM
                             [**2139-7-1**]  03:44 AM
                             [**2139-7-1**]  03:49 AM
                             [**2139-7-1**]  06:10 PM
                             [**2139-7-2**]  06:10 AM
                             [**2139-7-2**]  06:58 AM
   WBC
   16.5
   13.6
   12.8
   Hct
   25.1
   27.2
   27.9
   Plt
   [**Telephone/Fax (3) 2870**]
   Cr
   3.2
   3.3
   3.0
   3.5
   3.7
   TCO2
   18
   18
   15
   17
   19
   Glucose
   167
   119
   134
   100
   113
   Other labs: PT / PTT / INR:12.1/29.0/1.0, ALT / AST:808/359, Alk Phos /
   T Bili:142/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.8 g/dL, LDH:644 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.4
   mg/dL
   Fluid analysis / Other labs: gap 14
   lfts pending
   Imaging: cxr-- without focal infiltrate, improved hilar fullness,
   atelectasis at l base, retrocardiac
   Microbiology: [**6-28**] sputum--PSA, MRSA
   Assessment and Plan
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, resp failure s/p trach presents admitted with urosepsis
   and arf
   Stabilized from HD standpoint, off pressors but remains critically ill
   with worsening renal failure and altered MS.
   Active  issues remain:
   1.)  septic shock
remains off pressors, MAPS > 60, lactate nl, cvps >
   10
    ## urosepsis, with GNR  nd now cx + for VRE
   continue cefepime
>add dapto or linezolid for VRE
   change foley
   f/u cx [**Last Name (un) **]
    ##  MRSA bacteremia  -- [**2-17**] bl cx
s, f/u cx ngtd, osh treated for line
   infection, ct abd neg for abscess
   Holding on tee given multiple neg bl cx, s, received vanco X 1 with
   elevated levels
 changing to VRE coverage
   ## sputum + PSA, MRSA
likely colonized, without focal infiltrate,
   secretions or increasing o2 needs
   Covering for urine w/ cefepime and linez
   2.) Altered MS
   Suspect [**3-14**] sedation in setting of transaminitis w/ nl bili (? Shock
   liver)
 from poor clearance of benzos +
   Ongoing infection, urine now with VRE
   ? uremia (bun not that high and no asterixis or appreciable clonus), ?
   hepatic enceph
   EEG neg for sz
   Head ct without acute change
   - Hold sedation
   - recheck urine tox
 if still + for benzos, flumazinol
   - renal input
   - follow lfts
  consider lactulose
   3.)  increased LDH
> without signs of hemolysis, hct stable
   PCP dfa pending (on prolonged steroid taper and not on pcp [**Name Initial (PRE) 1316**])
   though with low clinical suspicion
   4.) ARF--likely ATN from sepsis low flow +  pre-renal on admit
   u/o improving, but bun/cr  continue to rise
   no acute ind for HD
   5.) met acidosis
   initially gap 30 likely from lactate and arf
  nongap [**3-14**] from NS
   resus
   now likely primarily related to renal failure
   follow lytes [**Hospital1 **]
   6.) resp failure
   oxygenating well
   on PS with excellent volumes, monitor gas to ensure stable Ph on PS
   change back to ACV to better compensate
   7.) htn -> restarted BB, hydral, dilt w/ improved control
   8.)  sz d/o
 eeg without evidence of sz
   continue trileptal
   9.) COPD
resumed slow steroid taper
   mdis
   10.)  diastolic dysf
   Holding lasix for now, afterload reduction with hydral
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-7-2**] 04:31 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2139-6-27**] 05:51 PM
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2139-07-03 07:16:00 Physician Resident Progress Note
Chief Complaint: Acute Renal Failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2139-7-2**] 05:02 PM
 BLOOD CULTURED - At [**2139-7-3**] 12:14 AM
 URINE CULTURE - At [**2139-7-3**] 04:44 AM
   - UTox negative for benzos so patient not given flumazenil
   - LFT's trending down.
   - ID: Enterococcus in urine likely not pathogen so opted not to treat
   with linezolid given r/o lowering seizure threshold.
   - Wound consult - rec's in.
   - Renal aware of patient - did not think Uremia likely component to
   altered mental status but will await further updates.
   - PM Lytes stable, mild increase in Cr, UOP falling off overnight.  Did
   not diurese.  Consider in AM.
   - BP well controlled during the day.
   - Mental Status: No substantial change overnight - plan for narcan in
   AM --> given, patient promptly had a large BM, clearly more arousable,
   started tearing and hyperventilating.
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-2**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2139-7-2**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-7-3**] 04:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-3**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.4
   HR: 74 (71 - 98) bpm
   BP: 133/63(82) {113/61(74) - 151/82(97)} mmHg
   RR: 20 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 20 (18 - 29)mmHg
   Total In:
                                                                  1,800 mL
                                                                    554 mL
   PO:
   TF:
                                                                    720 mL
                                                                    204 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    289 mL
   Urine:
                                                                    995 mL
                                                                    289 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    805 mL
                                                                    265 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 537 (487 - 558) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.32/35/138/17/-7
   Ve: 9.3 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, arousable, does not follow commands
   Labs / Radiology
   210 K/uL
   8.2 g/dL
   109 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.1 mEq/L
   54 mg/dL
   108 mEq/L
   136 mEq/L
   25.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2139-6-29**]  03:26 PM
                             [**2139-6-30**]  02:00 AM
                             [**2139-6-30**]  02:19 AM
                             [**2139-7-1**]  03:44 AM
                             [**2139-7-1**]  03:49 AM
                             [**2139-7-1**]  06:10 PM
                             [**2139-7-2**]  06:10 AM
                             [**2139-7-2**]  06:58 AM
                             [**2139-7-2**]  04:11 PM
                             [**2139-7-3**]  03:43 AM
   WBC
   16.5
   13.6
   12.8
   12.9
   Hct
   25.1
   27.2
   27.9
   25.2
   Plt
   [**Telephone/Fax (3) 2883**]10
   Cr
   3.3
   3.0
   3.5
   3.7
   3.8
   3.8
   TCO2
   18
   15
   17
   19
   Glucose
   119
   134
   100
   113
   211
   109
   Other labs: PT / PTT / INR:11.8/27.4/1.0, ALT / AST:349/95, Alk Phos /
   T Bili:172/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.0 g/dL, LDH:498 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.1
   mg/dL
   Fluid analysis / Other labs:
   Ammonia: 41 this AM
   Imaging: CXR:
   FINDINGS: In comparison with study of [**7-1**], there is no significant
   change.
   Again the cardiac silhouette is somewhat prominent but there is no
   evidence of
   acute focal pneumonia. Atelectatic changes at the left base are again
   seen.
   Microbiology: UCX: VRE, GNR's
   Blood: [**2-17**] from [**6-27**] w/ MRSA
   Sputum: GNR/GPC
   Assessment and Plan
   Ms [**Known lastname 1161**] is a 69F with multiple medical problems including COPD,
   diastolic dysfunction (EF 50%), DM, and respiratory failure s/p
   tracheostomy; who presented with fever,hypotension, and acute renal
   failure.
   .
   ID: Off pressors, maintaining MAP
s.  Sputum w/ MRSA/Pseudomonas likely
   colonization.  Urine with enterococcus.  d/w ID regarding treating with
   linezolid but they feel unlikely pathogen and rec looking for more
   sources.  Would require linezolid.  Urine also growing GNR
s not yet
   speciated.  MRSA on BCx from [**6-27**] likely contaminant as grew in [**2-15**]
   bottles from that date and no further growth.
   - Continue cefepime for GNR
s in urine until speciated.
   - continue to monitor CVP and MAP,
   - consider TEE to completely r/o endocarditis
 but given increasing
   likelihood that this is contaminant will hold on TEE for now.
   - surveillance cultures until negative
   - changed foley x2 this admit, but urine still dirty -> consider
   linezolid or broadening of urine culture -> get speciation from lab and
   then adjust.
   - Culture data from [**Hospital1 82**] (up to date as of today): BCx: [**6-27**] :
   NGTD [**5-15**], [**6-9**]: NGTD
 finalized, [**6-5**]: Staph Hominus
 bottles
   finalized.
   - Consider change of central line or d/c all together if continues to
   spike.
   .
   Mental Status: Clearly responded to narcan this AM, but did not recover
   to a normal baseline mental status.  This suggests significant
   component of narcotics to somnolence, but need better understanding
   from family/LTC facility regarding baseline mental status.  Would
   consider further work-up as indicated.   Repeat head CT to evaluate for
   evolving infarct not seen on previous imaging and to r/o bleed
   (unlikely).  If continues to spike, and no clear infectious source
   after urine further speciated would consider LP.
   - Consider LP given low grade fevers but mental status clearly
   responsive to narcan so reasonable to defer as low diagnostic utility
   on Abx, and have other sources for altered mental status.
   - ?component of urosepsis: Repeat Ua, Ucx -> dirty, consider treatint
   w/ linezolid and change foley.
   - Trend LFT's and resume fentanyl patch at lower dose.
   - EEG negative for seizure activity
 just tox/met encephalopathy ->
   consider repeating.
   - Obtain more information from family regarding baseline mental status.
   - Continue lactulose with goal [**4-14**] BM's per day.
   .
   Elevated LDH: PCP added on to sputum, no e/o hemolysis at this time and
   LDH returning to normal.
   -Sputum negative for PCP.
   [**Name10 (NameIs) 2818**] showing renal mass, will need MRI vs. CT with contrast to further
   evaluate when renal failure stabilizes.
   .
   ARF: ATN [**3-14**] hypotension, Cr. still trending upwards, but patient
   making urine of about 1L per day.  Continue to follow and just keep her
   slightly wet as tolerated.
   -Continue to maintain CVP 10-12
   -ATN usuallly resolves, in the [**Last Name (LF) 2811**], [**First Name3 (LF) 178**] check [**Hospital1 **] lytes to
   ensure there is no urgent need for dialysis
   -?lasix to get UOP going
   - Renal aware and does not think uremia significant contributor to
   mental status.
   .
   HTN: restarted metoprolol hydralazine and diltiazem -> at goal this
   AM.
   - Hydral/dilt/metoprolol and consider lasix.
   .
   Respiratory Failure/COPD-Currently with metabolic acidosis and
   respiratory compensation.  Serum pH stable last 24 hours and is keeping
   up with respiratory drive.  Follow with [**Hospital1 **] ABG's and consider
   increasing ventilatory support PRN -- currently on [**9-18**] of PSupp.
   -continue nebs
   -VBG stable overnight -> no increasing CO2 and O2 sats stable
   - follow VBG's for now.
   .
   Distended abdomen: On admission noted to have a distended abdomen,
   lactate normalized, and guaiac negative.  Surgery recommending serial
   abdominal exams only, CT ab/pelvis negative for obstruction.
   -Serial exams
   -having BM's
   .
   Metabolic acidosis: Initially a gap of 30 with elevated lactate, now
   with a closed gap and normalized lactate, likely secondary to normal
   saline
   - Monitor lytes
   - LR for fluids
   - repeat lactate level on next ABG.
   .
   Diastolic dysfunction
   -Restarting beta blocker, holding lasix
   .
   Seizure disorder:
   -continue home trileptal
   .
   Nutrition: Tube feeds, check finger sticks
   Access: Central Line, A-Line.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-7-2**] 11:59 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:  chlorhexadine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-07-03 10:16:00 Physician Attending Progress Note
Chief Complaint: septic shock, arf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, resp failure s/p trach presents admitted with urosepsis
   and arf
   Stabilized from HD standpoint, off pressors but remains critically ill
   with worsening renal failure and altered MS.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2139-7-2**] 05:02 PM
 BLOOD CULTURED - At [**2139-7-3**] 12:14 AM
 URINE CULTURE - At [**2139-7-3**] 04:44 AM
   lactulose given yesterday
   u tox neg for benzos, + opiates, responded to narcan
   ID curbside regarding antibx --, gnr + vre--> likely colonized, less
   liekly to be pathogen--> changed foley again
   febrile  overnight--> pan cx'd
   wound c/s
   renal c/s for uremia, arf
   pred dose decreased to 10 mg
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-3**] 08:01 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2139-7-2**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-7-3**] 04:38 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-3**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.7
   HR: 88 (71 - 98) bpm
   BP: 141/67(82) {113/61(74) - 149/82(94)} mmHg
   RR: 28 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 20 (18 - 22)mmHg
   Total In:
                                                                  1,800 mL
                                                                    882 mL
   PO:
   TF:
                                                                    720 mL
                                                                    320 mL
   IVF:
                                                                     50 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    439 mL
   Urine:
                                                                    995 mL
                                                                    439 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    805 mL
                                                                    443 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 537 (487 - 558) mL
   PS : 8 cmH2O
   RR (Set): 22
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 17.6 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   210 K/uL
   109 mg/dL
   3.8 mg/dL (3.7)
   17 mEq/L
   4.1 mEq/L
   54 mg/dL (51)
   108 mEq/L
   136 mEq/L
   25.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2139-6-29**]  03:26 PM
                             [**2139-6-30**]  02:00 AM
                             [**2139-6-30**]  02:19 AM
                             [**2139-7-1**]  03:44 AM
                             [**2139-7-1**]  03:49 AM
                             [**2139-7-1**]  06:10 PM
                             [**2139-7-2**]  06:10 AM
                             [**2139-7-2**]  06:58 AM
                             [**2139-7-2**]  04:11 PM
                             [**2139-7-3**]  03:43 AM
   WBC
   16.5
   13.6
   12.8
   12.9
   Hct
   25.1
   27.2
   27.9
   25.2
   Plt
   [**Telephone/Fax (3) 2883**]10
   Cr
   3.3
   3.0
   3.5
   3.7
   3.8
   3.8
   TCO2
   18
   15
   17
   19
   Glucose
   119
   134
   100
   113
   211
   109
   Other labs: PT / PTT / INR:11.8/27.4/1.0, ALT / AST:349/95, Alk Phos /
   T Bili:172/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.0 g/dL, LDH:498 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.1
   mg/dL
   Fluid analysis / Other labs: ammonia--75--> 41
   Imaging: cxr--no sig change, trach, r ij in position
   Microbiology: no new growth [**6-28**] -->  [**2-17**] mrsa
   urine --vre, + GNR
   repeat cx's [**7-2**]
   u/a +--> leuk, nitr, wbc 186, few bacteria
   Assessment and Plan
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant
   pseudomonsas, resp failure s/p trach presents admitted with urosepsis
   and arf
   Stabilized from HD standpoint, off pressors but remains critically ill
   with worsening renal failure and altered MS.
   Active  issues remain:
   1.)  septic shock
 remains off pressors, MAPS > 60, lactate nl, cvps >
   10
    ## urosepsis
   continue cefepime
> micro lab for is and [**Last Name (un) **]
   also with VRE but suspect colonized, consider add dapto or linezolid
   for vre pending cx info on gnr
   change foley
   ##  MRSA bacteremia  -- [**2-17**] bl cx
s, f/u cx ngtd, osh treated for line
   infection, ct abd neg for abscess
   Holding on tee given multiple neg bl cx, s, received vanco X 1 with
   elevated levels X 6 days
   ## sputum + PSA, MRSA
likely colonized, without focal infiltrate on
   imaging, secretions or increasing o2 needs
   2.) Altered MS
worse c/t on admit, baseline status needs to be better
   clarified
   Suspect [**3-14**] sedation/opiates in setting of transaminitis (? Shock
   liver)
   Ongoing infection (still await gnr id, [**Last Name (un) **] from urine)
   ? uremia (bun not that high, no asterixis or appreciable clonus)
   ? hepatic enceph (ammonia ecreased after lactulose)
   EEG neg for sz
 consider repeat
   Head ct without acute change
 repeat
   Some response to narcan (u tox still + opiates)
follow until u tox
   clears
   - Hold sedation
   - renal aware, no acute ind for hd
   - lactulose
   --if spikes and urine bug adequ covered
 perfrom LP
   3.)  increased LDH
> without signs of hemolysis, hct stable
   PCP dfa neg  (on prolonged steroid taper and not on pcp [**Name Initial (PRE) 1316**]) though
   with low clinical suspicion
   4.) ARF--likely ATN from sepsis low flow +  pre-renal on admit
   u/o improving, but bun/cr  continue to rise
   no acute ind for HD, renal aware
   5.) met acidosis
   initially gap 30 likely from lactate and arf
  nongap [**3-14**] from NS
   resus
   now likely primarily related to renal failure
   follow lytes [**Hospital1 **]
   6.) resp failure
   oxygenating well
 try reducing peep
   on PS with excellent volumes, monitor gas to ensure stable Ph on PS
   change back to ACV to better compensate
   7.) abd distention, w/u unremark, + BM
   8.) htn -> restarted BB, hydral, dilt w/ improved control
   8.)  sz d/o
 eeg without evidence of sz
   continue trileptal
   9.) COPD
resumed slow steroid taper
   mdis
   10.)  diastolic dysf
   Holding lasix for now, afterload reduction with hydral
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-7-3**] 07:23 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2139-07-04 07:59:00 Physician Resident Progress Note
Chief Complaint: 69 F w/ MMP including copd, diastolic chf, dm2, recent
   prolonged hospitalization where she became trach- dependent secondary
   to prolonged virulent pseudomonal PNA, presented in septic shock, ARF
   and AMS
   24 Hour Events:
 SPUTUM CULTURE - At [**2139-7-3**] 08:21 PM
   -We called the micro lab, speciation and [**Last Name (un) **]. on GNR's in the urine
   will be up today
   -Head CT preliminarily negative
   -Yesterday's urine tox finally negativ for opiates, but still remains
   with AMS
   -Respiratory status worsened overnight, so we initially switched her
   over to AC from PSV with 400x22, PEEP 5 and FiO2 of 40%.  She continued
   to have respiratory distress and ABG showed 7.31/39/50, and a CXR
   looked more wet so I increased settings to PEEP 10 and FiO2 50%, and
   gave 20mg IV lasix
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-3**] 08:01 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2139-7-3**] 08:23 PM
   Heparin Sodium (Prophylaxis) - [**2139-7-4**] 04:20 AM
   Furosemide (Lasix) - [**2139-7-4**] 06:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-4**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 87 (79 - 101) bpm
   BP: 143/81(96) {130/67(82) - 168/85(104)} mmHg
   RR: 25 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,780 mL
                                                                    494 mL
   PO:
             TF:
                                                                    840 mL
                                                                    222 mL
   IVF:
                                                                    210 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                  1,019 mL
                                                                    355 mL
   Urine:
                                                                  1,019 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    761 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Spontaneous): 501 (501 - 626) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.31/39/50/17/-6
   Ve: 12.3 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Anxious, Foaming at the mouth
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Rash:
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   265 K/uL
   8.1 g/dL
   105 mg/dL
   3.6 mg/dL
   17 mEq/L
   4.1 mEq/L
   55 mg/dL
   104 mEq/L
   134 mEq/L
   24.3 %
   13.3 K/uL
        [image002.jpg]
                             [**2139-6-30**]  02:19 AM
                             [**2139-7-1**]  03:44 AM
                             [**2139-7-1**]  03:49 AM
                             [**2139-7-1**]  06:10 PM
                             [**2139-7-2**]  06:10 AM
                             [**2139-7-2**]  06:58 AM
                             [**2139-7-2**]  04:11 PM
                             [**2139-7-3**]  03:43 AM
                             [**2139-7-4**]  04:02 AM
                             [**2139-7-4**]  05:47 AM
   WBC
   13.6
   12.8
   12.9
   13.3
   Hct
   27.2
   27.9
   25.2
   24.3
   Plt
   227
   212
   210
   265
   Cr
   3.5
   3.7
   3.8
   3.8
   3.6
   TCO2
   18
   15
   17
   19
   21
   Glucose
   100
   113
   211
   109
   105
   Other labs: PT / PTT / INR:12.3/28.9/1.0, ALT / AST:254/53, Alk Phos /
   T Bili:154/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:3.0 g/dL, LDH:498 IU/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.5
   mg/dL
   Fluid analysis / Other labs: Urine tox negative for opiates yesterday
   and today
   Imaging: CXR: more pulmonary edema with new small righ pleural
   effusion, ? developing RLL opacity
   Microbiology: Urine [**7-1**]: Gram negative rods, no speciation yet
   C. diff negative
   Blood cultures [**Date range (1) 2884**] NGTD
   Sputum [**7-3**]: pending
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, recent prolonged
   hospitalization where she became trach- dependent secondary to
   prolonged virulent pseudomonal PNA, presented in septic shock, ARF and
   AMS
   Altered mental status: new altered mental status since admission.
   Highest on our diff was opiate toxicity given narcan response, but now
   her urine is clear of opiates.  Her urine GNR is not speciated, and it
   is possible that she has an ongoing infection without adequate
   coverage.  She is also developing a RLL PNA, but is therapeutic on vanc
   and covered with cefepime for pseudomonas (sputum had MRSA and PSA).
   Otherwise ddx includes uremia in the setting of ARF, seizures although
   EEG was neg., low suspicion for intracranial process as head CT
   negative, also could be meningitis.
   -Will consult ID for help in abx management, consider adding meropenam
   vs. fungal coverage.
   -Consider continous EEG, LP, MRI to fully work this up
   -Await [**Last Name (un) **]/speciation of GNR in urine
   Sepsis: Off pressors with CVP and MAPs at goal.  Lactates normalized.
   Likely urosepsis, also with new developing RLL PNA
   -continue cefepime for now, await final [**Last Name (un) **]/speciation on urine
   cultures
   -Sputum cultures with MRSA and PSA,  now with new infiltrate on RLL,
   already therapeutic on vanc, but will need daily levels and redosing
   -ID consult to help with ABX management.
   Acute renal failure: Likely ATN in the setting of hypotension with
   isosthenuric urine.  Creatinine continues to be elevated without
   significant improvement.  UOP adequate.
   -No acute indication for HD now, renal is aware of the patient
   -continue to monitor Cr and BUN
   Acute on chronic resp failure: Respiratory status worsened overnight,
   so we initially switched her over to AC from PSV with 400x22, PEEP 5
   and FiO2 of 40%.  She continued to have respiratory distress and ABG
   showed 7.31/39/50, and a CXR looked more wet so I increased settings to
   PEEP 10 and FiO2 50%, and gave 20mg IV lasix
   -Continue to monitor ABGs and adjust settings prn
   -Nebs prn
   HTN
   -Restarted BB, hydral, dilt
   Seizure disorder- eeg without evidence of seizure
   -continue trileptal
   -consider 24hr monitoring
   COPD
   -resumed slow steroid taper
   -mdis
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-7-4**] 04:19 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-07-04 08:03:00 Physician Attending Progress Note
Chief Complaint: septic shock, arf
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant PSA,
   resp failure s/p trach presents with urosepsis and arf
   Stabilized from HD standpoint, off pressors, but remains critically ill
   with worsening renal failure and altered MS.
   24 Hour Events:
 SPUTUM CULTURE - At [**2139-7-3**] 08:21 PM
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-3**] 08:01 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2139-7-3**] 08:23 PM
   Heparin Sodium (Prophylaxis) - [**2139-7-4**] 04:20 AM
   Furosemide (Lasix) - [**2139-7-4**] 06:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-4**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 87 (79 - 101) bpm
   BP: 143/81(96) {130/67(82) - 168/85(104)} mmHg
   RR: 25 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,780 mL
                                                                    513 mL
   PO:
             TF:
                                                                    840 mL
                                                                    241 mL
   IVF:
                                                                    210 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                  1,019 mL
                                                                    355 mL
   Urine:
                                                                  1,019 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    761 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Spontaneous): 501 (501 - 626) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.31/39/50/17/-6
   Ve: 12.3 L/min
   PaO2 / FiO2: 100
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   265 K/uL
   105 mg/dL
   3.6 mg/dL
   17 mEq/L
   4.1 mEq/L
   55 mg/dL
   104 mEq/L
   134 mEq/L
   24.3 %
   13.3 K/uL
        [image002.jpg]
                             [**2139-6-30**]  02:19 AM
                             [**2139-7-1**]  03:44 AM
                             [**2139-7-1**]  03:49 AM
                             [**2139-7-1**]  06:10 PM
                             [**2139-7-2**]  06:10 AM
                             [**2139-7-2**]  06:58 AM
                             [**2139-7-2**]  04:11 PM
                             [**2139-7-3**]  03:43 AM
                             [**2139-7-4**]  04:02 AM
                             [**2139-7-4**]  05:47 AM
   WBC
   13.6
   12.8
   12.9
   13.3
   Hct
   27.2
   27.9
   25.2
   24.3
   Plt
   227
   212
   210
   265
   Cr
   3.5
   3.7
   3.8
   3.8
   3.6
   TCO2
   18
   15
   17
   19
   21
   Glucose
   100
   113
   211
   109
   105
   Other labs: PT / PTT / INR:12.3/28.9/1.0, ALT / AST:254/53, Alk Phos /
   T Bili:154/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:3.0 g/dL, LDH:498 IU/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
    Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Assessment and Plan
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistan tPSA,
   resp failure s/p trach aadmitted with urosepsis and arf
   Stabilized from HD standpoint, off pressors, but remains critically ill
   with worsening renal failure and altered MS.
   Active  issues remain:
   1.)      septic shock
 > remains off pressors, MAPS > 60, lactate nl,
   cvps > 10
   ## suspect [**3-14**] urosepsis, gnr
   continue cefepime
>await official gnr id and [**Last Name (un) **] to ensure adeq
   coverage
   VRE
 colonized
   change foley
   ##  MRSA bacteremia  -- [**2-17**] bl cx
s, f/u cx all with ngtd, osh treated
   for line infection, ct abd neg for abscess
   Holding on tee given multiple neg bl cx, s, received vanco X 1 with
   level elevated levels X 6 days
   ## sputum + PSA, MRSA
likely colonized, without focal infiltrate on
   imaging, secretions or increasing O2 needs
   2.) Altered MS
new from MS at time of admit, ? baseline status
 clarify
   with family
   Suspect [**3-14**] sedation/opiates in setting of transaminitis (? Shock
   liver) and ARF
   Ongoing infection remains of concern though improved from sepsis
   standpoint (still await gnr id, [**Last Name (un) **] from urine)
   ? uremia (bun not that high, no asterixis or appreciable clonus)
   ? hepatic enceph
   EEG neg for sz
 consider repeat
   Head ct without acute change
 repeat today
   Some response to narcan (u tox still + opiates)
follow dailyl u tox til
   clears
   - Hold sedation
   - renal aware, no acute ind for hd
   - lactulose
   --if spikes and urine bug adequ covered
 would perform LP
   3.) low grade temp 100.4
   Pan cx
d, no ev of new VAP
   if spikes would change IJ
   aline d/c;d yesteday
   4.)  ARF--likely ATN from sepsis low flow +  pre-renal on admit
   u/o improving, but bun/cr continue to rise
   no acute ind for HD, renal aware
   5.) met acidosis
   initially gap 30 likely from lactate and arf
  nongap [**3-14**] from NS
   resus
   now likely primarily related to renal failure
   follow lytes
   compensate with vent
   6.) acute on chronic resp failure
   oxygenating well
 reduce peep
   on PS as more dysynchronous with acv, monitor gas to ensure stable ph
> change back to ACV to better compensate if needed
   7.) abd distention, w/u unremark, + BM
   8.) increased LDH
> without signs of hemolysis, hct  remains stable
   9.) htn -> restarted BB, hydral, dilt w/ improved control
   10.)  sz d/o
 eeg without evidence of sz
   continue trileptal
   11.) COPD
resumed slow steroid taper
   mdis
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-7-3**] 07:23 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-7-4**] 04:19 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2139-07-05 07:06:00 Physician Resident Progress Note
Chief Complaint: Acute Renal Failure
   24 Hour Events:
 BLOOD CULTURED - At [**2139-7-4**] 09:01 AM
 BLOOD CULTURED - At [**2139-7-4**] 09:59 AM
   She also perked up quite nicely believe it or not as her pain regimen
   has been held. Diuresed her with goal 500cc negative. ID was consulted
   and recommended starting linezolid for urine RE >100K colonies and a
   non-fermenter, non Pseudomonas >100K colonies on several assessments,
   as well as cipro and ceftaz to cover pulmonary bugs and multiple CXR
   with infiltrates. Gave her hydralazine and labetalol for HTN.
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-4**] 08:09 AM
   Ciprofloxacin - [**2139-7-4**] 07:29 PM
   Ceftazidime - [**2139-7-4**] 08:29 PM
   Linezolid - [**2139-7-4**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-7-4**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-7-5**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-5**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (98.9
   HR: 75 (70 - 97) bpm
   BP: 168/79(99) {101/54(66) - 202/109(131)} mmHg
   RR: 21 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 9 (7 - 13)mmHg
   Total In:
                                                                  2,408 mL
                                                                    364 mL
   PO:
   TF:
                                                                    840 mL
                                                                     40 mL
   IVF:
                                                                    768 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    580 mL
   Urine:
                                                                  1,520 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    888 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   Plateau: 7 cmH2O
   SpO2: 100%
   ABG: 7.35/33/223/18/-6
   Ve: 10.2 L/min
   PaO2 / FiO2: 558
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: gaze dysconjugate when not aroused, pupils
   sluggishly reactive
   Head, Ears, Nose, Throat: Normocephalic, trach'd
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : anteriorly)
   Abdominal: Soft, Non-tender, diminished bowel sounds
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, ?arousable to voice, does not maintain alertness, does
   not follow commands
   Labs / Radiology
   231 K/uL
   7.3 g/dL
   134 mg/dL
   3.7 mg/dL
   18 mEq/L
   3.9 mEq/L
   56 mg/dL
   104 mEq/L
   132 mEq/L
   21.8 %
   12.5 K/uL
        [image002.jpg]
                             [**2139-7-1**]  06:10 PM
                             [**2139-7-2**]  06:10 AM
                             [**2139-7-2**]  06:58 AM
                             [**2139-7-2**]  04:11 PM
                             [**2139-7-3**]  03:43 AM
                             [**2139-7-4**]  04:02 AM
                             [**2139-7-4**]  05:47 AM
                             [**2139-7-4**]  02:25 PM
                             [**2139-7-4**]  09:37 PM
                             [**2139-7-5**]  02:01 AM
   WBC
   12.8
   12.9
   13.3
   12.5
   Hct
   27.9
   25.2
   24.3
   21.8
   Plt
   [**Telephone/Fax (3) 2902**]31
   Cr
   3.7
   3.8
   3.8
   3.6
   3.6
   3.7
   TCO2
   17
   19
   21
   19
   Glucose
   113
   211
   109
   105
   134
   Other labs: PT / PTT / INR:12.3/29.6/1.0, ALT / AST:183/57, Alk Phos /
   T Bili:160/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.0 g/dL, LDH:498 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.1
   mg/dL
   Imaging: CXR: Bibasilar patchy opacities, suspicious for pneumonia.
   Small right
   pleural effusion.
   Microbiology: No new growth.
   Last sputum [**7-3**]
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, recent prolonged
   hospitalization where she became trach- dependent secondary to
   prolonged virulent pseudomonal PNA, presented in septic shock, ARF and
   AMS
   .
   Altered mental status: new altered mental status since admission.
   Highest on our diff was opiate toxicity given narcan response, but now
   her urine is clear of opiates.  Her urine GNR is not speciated, and it
   is possible that she has an ongoing infection without adequate
   coverage.  She is also developing a RLL PNA, but is therapeutic on vanc
   and covered with cefepime for pseudomonas (sputum had MRSA and PSA).
   Otherwise ddx includes uremia in the setting of ARF, seizures although
   EEG was neg., low suspicion for intracranial process as head CT
   negative, also could be meningitis.
   .
   -Will consult ID for help in abx management, consider adding meropenam
   vs. fungal coverage.
   -Consider continous EEG, LP, MRI to fully work this up
   -Await [**Last Name (un) **]/speciation of GNR in urine
   .
   Sepsis: Off pressors with CVP and MAPs at goal.  Lactates normalized.
   Likely urosepsis, also with new developing RLL PNA.  Has already
   completed course of cefepime/vanc since admission and this pneumonia
   has blossomed in-house, so will d/w ID regarding approrpiate coverage.
   Double cover
   -continue cipro/ceftaz/linezolid for now.
   -Sputum cultures with MRSA and PSA,  now with new infiltrate on RLL,
   already therapeutic on vanc, but will need daily levels and redosing
   -ID consult to help with ABX management.
   .
   Acute renal failure: Likely ATN in the setting of hypotension with
   isosthenuric urine.  Creatinine continues to be elevated without
   significant improvement.  UOP adequate.
   -No acute indication for HD now, renal is aware of the patient
   -continue to monitor Cr and BUN
   .
   Acute on chronic resp failure: Respiratory status worsened overnight,
   so we initially switched her over to AC from PSV with 400x22, PEEP 5
   and FiO2 of 40%.  She continued to have respiratory distress and ABG
   showed 7.31/39/50, and a CXR looked more wet so I increased settings to
   PEEP 10 and FiO2 50%, and gave 20mg IV lasix
   -Continue to monitor ABGs and adjust settings prn
   -Nebs prn
   .
   HTN
   -Restarted BB, hydral, dilt
   .
   Seizure disorder- eeg without evidence of seizure
   -continue trileptal
   -consider 24hr monitoring
   .
   COPD
   -resumed slow steroid taper
   -mdis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin(bowel regimen)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-07-05 07:56:00 Physician Attending Progress Note
Chief Complaint: septic shock, arf
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant PSA,
   resp failure s/p trach presents with urosepsis and arf
   Stabilized from HD standpoint, off pressors, but remains critically ill
   with worsening renal failure and altered MS.
   24 Hour Events:
 BLOOD CULTURED - At [**2139-7-4**] 09:01 AM
 BLOOD CULTURED - At [**2139-7-4**] 09:59 AM
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-4**] 08:09 AM
   Ciprofloxacin - [**2139-7-4**] 07:29 PM
   Ceftazidime - [**2139-7-4**] 08:29 PM
   Linezolid - [**2139-7-4**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-7-4**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-7-5**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-5**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (98.9
   HR: 80 (70 - 97) bpm
   BP: 178/79(103) {101/54(66) - 202/109(131)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 12 (7 - 13)mmHg
   Total In:
                                                                  2,408 mL
                                                                    370 mL
   PO:
   TF:
                                                                    840 mL
                                                                     40 mL
   IVF:
                                                                    768 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    580 mL
   Urine:
                                                                  1,520 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    888 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   Plateau: 7 cmH2O
   SpO2: 100%
   ABG: 7.35/33/223/18/-6
   Ve: 10.2 L/min
   PaO2 / FiO2: 558
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   231 K/uL
   134 mg/dL
   3.7 mg/dL
   18 mEq/L
   3.9 mEq/L
   56 mg/dL
   104 mEq/L
   132 mEq/L
   21.8 %
   12.5 K/uL
        [image002.jpg]
                             [**2139-7-1**]  06:10 PM
                             [**2139-7-2**]  06:10 AM
                             [**2139-7-2**]  06:58 AM
                             [**2139-7-2**]  04:11 PM
                             [**2139-7-3**]  03:43 AM
                             [**2139-7-4**]  04:02 AM
                             [**2139-7-4**]  05:47 AM
                             [**2139-7-4**]  02:25 PM
                             [**2139-7-4**]  09:37 PM
                             [**2139-7-5**]  02:01 AM
   WBC
   12.8
   12.9
   13.3
   12.5
   Hct
   27.9
   25.2
   24.3
   21.8
   Plt
   [**Telephone/Fax (3) 2902**]31
   Cr
   3.7
   3.8
   3.8
   3.6
   3.6
   3.7
   TCO2
   17
   19
   21
   19
   Glucose
   113
   211
   109
   105
   134
   Other labs: PT / PTT / INR:12.3/29.6/1.0, ALT / AST:183/57, Alk Phos /
   T Bili:160/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.0 g/dL, LDH:498 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
    Physical Examination
   General Appearance: No acute distress, Overweight / Obese.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic. Foaming at mouth this am.
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Respiratory / Chest: Ronchorous, crackles, no wheezes. Paradoxical
   abdominal movt. With end exp rounding
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: bilat 2+ edema
   Skin:  Warm
   Neurologic: not responsive  to verbal stimulus, moves all 4 extremities
   Assessment and Plan
    69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistan tPSA,
   resp failure s/p trach aadmitted with urosepsis and arf
   Stabilized from HD standpoint, off pressors, but remains critically ill
   with worsening renal failure and altered MS.
   Now with fever and increasing secretions with VAP on CXR.
   1.)      septic shock
 > remains off pressors, MAPS > 60, lactate nl,
   cvps > 10
   2.) Altered MS
 no opiates in urine any more. Likely toxic
   encephalopathy due to inadequately Rx infections. CT head neg. EEG
   neg.  Did not wake up after lactulose with normalization of ammonia.
   Meningitis at the back of our minds but not high on the list.
   3.) ID: low grade temp 100.4. On Vanc and Cefepime. Urine with VRE
   (colonizer) and GNR (yet to be speciated). Repeat sputum cx pend. Would
   like to expand GNR coverage for lung and urine. Will get ID consult
   today to help with abx. Therapeutic on Vanc. Has R IJ which may need to
   be changed, but will wait for ID input.
   4.)  ARF--likely ATN from sepsis low flow +  pre-renal on admit
   u/o improving, but bun/cr continue to rise
   no acute ind for HD, renal aware
   Add lasix to keep I/O neg daily.
   5.) met acidosis
   initially gap 30 likely from lactate and arf
  nongap [**3-14**] from NS
   resus
   now likely primarily related to renal failure
   follow lytes
   compensate with vent
   6.) acute on chronic resp failure: Increased Peep and FiO2 due to fluid
   overload and new VAP.  Wean as tolerated. Repeat ABG today.
   7.) htn -> restarted BB, hydral, dilt w/ improved control
   8.)  sz d/o
 eeg without evidence of sz
   continue trileptal
   11.) COPD
resumed slow steroid taper
   mdis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2139-07-06 06:58:00 Physician Resident Progress Note
Chief Complaint: 69 F w/ MMP including copd, diastolic chf, dm2, recent
   prolonged hospitalization where she became trach- dependent secondary
   to prolonged virulent pseudomonal PNA, presented in septic shock, ARF
   and AMS
   24 Hour Events:
   - ID: Rec 10 day course of linezolid.
   - HCT stable overnight
   - low dose oxycodone for pain
   - Plan for family meeting on Wednesday - HCP will get back to us, f/u
   Tuesday AM
   - Unable to place PICC at bedside - will need IR guided PICC.placement.
   - Gave 40mg IV lasix x2 and still net even at midnight.
   - Inspected wound: mostly pink granulation tissue but with yellow
   ?necrotic tissue from tract, plan to call surgery in AM for evaluation.
   - Weaned vent to PEEP 5, PSupp trial in AM
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-4**] 08:09 AM
   Linezolid - [**2139-7-5**] 08:11 AM
   Ciprofloxacin - [**2139-7-5**] 05:50 PM
   Ceftazidime - [**2139-7-5**] 07:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-7-5**] 11:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-6**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.7
   HR: 77 (71 - 93) bpm
   BP: 124/62(75) {95/50(61) - 178/84(115)} mmHg
   RR: 20 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.4 kg (admission): 85 kg
   Height: 65 Inch
    CVP: 8 (6 - 16)mmHg
   Total In:
                                                                  2,069 mL
                                                                    434 mL
   PO:
   TF:
                                                                    619 mL
                                                                    201 mL
   IVF:
                                                                    720 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    460 mL
   Urine:
                                                                  2,150 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -81 mL
                                                                    -26 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 24 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 11.1 L/min
   Physical Examination
   General: MS improved today, answering yes/no questions
   Cardiac: regular rhythm, normal rate, no murmurs
   Lungs: CTAB anteriolry
   Abdomen: soft, distended, NTTP, wound draining exudate without odor
   Extremities: [**3-15**]+ pitting edema, warm and well-perfused
   Labs / Radiology
   288 K/uL
   7.0 g/dL
   129 mg/dL
   3.7 mg/dL
   18 mEq/L
   3.8 mEq/L
   55 mg/dL
   101 mEq/L
   130 mEq/L
   21.2 %
   12.6 K/uL
        [image002.jpg]
                             [**2139-7-2**]  04:11 PM
                             [**2139-7-3**]  03:43 AM
                             [**2139-7-4**]  04:02 AM
                             [**2139-7-4**]  05:47 AM
                             [**2139-7-4**]  02:25 PM
                             [**2139-7-4**]  09:37 PM
                             [**2139-7-5**]  02:01 AM
                             [**2139-7-5**]  09:12 AM
                             [**2139-7-5**]  03:00 PM
                             [**2139-7-6**]  04:46 AM
   WBC
   12.9
   13.3
   12.5
   12.5
   12.6
   Hct
   25.2
   24.3
   21.8
   21.6
   21.3
   21.2
   Plt
   [**Telephone/Fax (3) 2909**]40
   288
   Cr
   3.8
   3.8
   3.6
   3.6
   3.7
   3.7
   3.7
   TCO2
   21
   19
   Glucose
   [**Telephone/Fax (3) 2910**]34
   258
   129
   Other labs: PT / PTT / INR:12.3/29.6/1.0, ALT / AST:183/57, Alk Phos /
   T Bili:160/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:498 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Fluid analysis / Other labs: VBG: 7.38/38/40
   Microbiology: Blood culture since [**6-30**] with NGTD
   Sputum [**7-3**] with 4+ pseudomonas
   Urine [**7-1**] with a "non-fermenter, not pseudomonas", resistant to
   cefepime
   C. diff negative
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, recent prolonged
   hospitalization where she became trach- dependent secondary to
   prolonged virulent pseudomonal PNA, presented in septic shock, ARF and
   AMS
   .
   Altered mental status: new altered mental status since admission which
   clearly due in part to opiates in setting of worsening liver function
   on admit
 clearly improved off narcotics but with persistent
   delierium.  Likely from pna/ARF/urosepsis.  Opiates cleared from
   system, EEG, and head CT negative.
   -Continue to treat infections
   -Continue lactulose with goal [**3-15**] BM per day for now
   -Dialysis if renal function worsens.
   Pneumonia: sputum with 4+ GNR not yet speciated or with sensitivies,
   RLL consolidation on CXR.  Presumed VAP.
   -continue ceftaz/cipro for presumed VAP
   -F/u sputum cultures as past cultures have been pan-resistant and quite
   virulent
   - ID recs
   UTI: Urine with a GNR ([**Last Name (un) **] to ceftaz) and VRE
   -continue linezolid
   -other organism is sensitive to ceftaz
   -ID recs
   Sepsis: Off pressors with CVP and MAPs at goal.  Lactates normalized.
   Likely urosepsis, also with new developing RLL PNA.  Has already
   completed course of cefepime/vanc since admission and this pneumonia
   has blossomed in-house, so will d/w ID regarding approrpiate coverage.
   Double cover Pseudomonas for now.
   - continue cipro/ceftaz/linezolid for now.
   - double coverage with ceftaz/cipro for PSA, linezolid for VRE in urine
   - ID consulting for abx management
   Non-gap Metabolic acidosis: No diarrhea, no hyperchloremia.  Possibly a
   fistula from wound site?
   -continue to monitor, consider a fistulogram if this worsens
   Acute renal failure: Likely ATN in the setting of hypotension with
   isosthenuric urine.  Creatinine continues to be elevated without
   significant improvement.  UOP adequate.
   -No acute indication for HD
   -continue to monitor Cr and BUN
   Acute on chronic resp failure:  Trach dependent with fluid overload,
   VAP
   -Continue to monitor ABGs and adjust settings prn
   -Lasix to keep even to slightly negative
   -Nebs prn, will decrease steroids today to 7.5mg
   -Treating VAP
   HTN: Pain control, uptitrate beta-blocker prn.
   -Restarted BB, hydral, dilt
   Seizure disorder- eeg without evidence of seizure
   -continue trileptal
   COPD
   -resumed slow steroid taper, would not taper prednisone this AM as
   still wheezing.
   -mdis
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-7-6**] 12:28 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2139-07-06 07:56:00 Physician Attending Progress Note
Chief Complaint: septic shock, arf
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant PSA,
   resp failure s/p trach presents with urosepsis and ARF in septic shock
    Stabilized from HD standpoint, off pressors, but remains critically
   ill with worsening renal failure and altered MS.
   24 Hour Events:
   Low dose oxycodone for pain.
   Family meeting Wednesday.
   Needs IR guided picc.
   Diuresed to even
   Surgery consult for abd wound looking necrotic.
   Tolerating PS 5/5 well.
   Mental status improved overall.
   Denies pain.
   + thick secretions from trach
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-4**] 08:09 AM
   Linezolid - [**2139-7-5**] 08:11 AM
   Ciprofloxacin - [**2139-7-5**] 05:50 PM
   Ceftazidime - [**2139-7-5**] 07:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-7-5**] 11:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-6**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.7
   HR: 77 (71 - 93) bpm
   BP: 124/62(75) {95/50(61) - 177/84(115)} mmHg
   RR: 20 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.4 kg (admission): 85 kg
   Height: 65 Inch
   CVP: 8 (6 - 16)mmHg
   Total In:
                                                                  2,069 mL
                                                                    477 mL
   PO:
   TF:
                                                                    619 mL
                                                                    238 mL
   IVF:
                                                                    720 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    460 mL
   Urine:
                                                                  2,150 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -81 mL
                                                                     17 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 24 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 11.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese.  Responds to
   command today.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic.
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Respiratory / Chest: Ronchorous, crackles, no wheezes. Paradoxical
   abdominal movt. With end exp rounding
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, pus in
   abd wound which is tracking to her back, rest of the wound looks clean.
   Extremities: bilat 1+ edema
   Skin:  Warm
   Neurologic: responsive  to verbal stimulus, moves all 4 extremities
   Labs / Radiology
   7.0 g/dL
   288 K/uL
   154
   3.7 mg/dL
   18 mEq/L
   3.8 mEq/L
   55 mg/dL
   101 mEq/L
   130 mEq/L
   21.2 %
   12.6 K/uL
        [image002.jpg]
                             [**2139-7-4**]  04:02 AM
                             [**2139-7-4**]  05:47 AM
                             [**2139-7-4**]  02:25 PM
                             [**2139-7-4**]  09:37 PM
                             [**2139-7-5**]  02:01 AM
                             [**2139-7-5**]  09:12 AM
                             [**2139-7-5**]  03:00 PM
                             [**2139-7-6**]  12:00 AM
                             [**2139-7-6**]  04:46 AM
                             [**2139-7-6**]  06:00 AM
   WBC
   13.3
   12.5
   12.5
   12.6
   Hct
   24.3
   21.8
   21.6
   21.3
   21.2
   Plt
   265
   231
   240
   288
   Cr
   3.6
   3.6
   3.7
   3.7
   3.7
   TCO2
   21
   19
   Glucose
   105
   134
   258
   175
   129
   154
   Other labs: PT / PTT / INR:12.3/29.6/1.0, ALT / AST:183/57, Alk Phos /
   T Bili:160/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:498 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Micro: blood cx: neg
   Spu: 4+ pseudomonas
   Urine: VRE, GNR r to Cefepime
   Cdiff: neg
   CXR: RLL infiltrate improved
   Assessment and Plan
   69 F w/ MMP w/ copd, diastolic chf, dm2, recent prolonged
   hospitalization w/ rectal sheath hematoma, pna w/ highly resistant PSA,
   resp failure s/p trach admitted with urosepsis and arf . Urine GNR were
   resistant to Cefipime, and she now has a new RLL VAP. Renal function
   has plateaued. Abd wound looks necrotic. Septic shock resolved.
   # ID:
   -          ID recs appreciated.
   -          Started on linezolid, cipro and ceftaz to cover Pseudomonas
   VAP (S pend) and VRE and MDR GNR in urine
   -          Still has her central line, will need IR guided picc
   -          Use oxycodone for pain since on linezolid, due to
   interactions.
   # wound care and surgery consult for abdominal wall wound
   # Altered MS
   -         resolving with appropriate ID w/u and Rx
   # ARF--likely ATN from sepsis low flow +  pre-renal on admit
   u/o improving and bun/cr unchanged
   Keep I/o neg
   Bicarb decreasing, but no anion gap, getting lasix for diuresis. No
   diarrhea. Follow for now. Check lytes this pm, and ABG if worse.
   # Anemia
 acute drop in Hct since [**7-2**] but stabilized thereafter,
   guaiac neg. Iron wnl few weeks back. ? epogen. No indication for
   transfusion at this time. Goal Hct 21.
   # Vent:
   Doing well on PS, wean to trach collar as tolerated
   # htn -> restarted BB, hydral, dilt w/ improved control
   #  sz d/o
 eeg without evidence of sz, continue trileptal
   # COPD
 taper prednisone to 5mg, MDIs
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-7-6**] 12:28 AM 30 mL/hour
   Glycemic Control:  riss
   Lines:
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: ppi
   VAP: ppx
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:

2139-07-07 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -In for an IR guided PICC
   -Surgery consulted for wound management, they have cultured the
   draining tract, but do not recommend any debridement at this point.
   -Was unable to tolerate trach collar trial
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-4**] 08:09 AM
   Ciprofloxacin - [**2139-7-6**] 05:11 PM
   Ceftazidime - [**2139-7-6**] 08:30 PM
   Linezolid - [**2139-7-6**] 09:46 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-7-7**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-7**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 81 (76 - 101) bpm
   BP: 127/58(76) {117/57(73) - 160/97(106)} mmHg
   RR: 21 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.4 kg (admission): 85 kg
   Height: 65 Inch
             Total In:
                                                                  2,291 mL
                                                                    520 mL
   PO:
             TF:
                                                                    731 mL
                                                                    232 mL
   IVF:
                                                                    970 mL
                                                                     39 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    600 mL
   Urine:
                                                                  1,900 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    391 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 439 (439 - 577) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 11.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, Wound:
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   294 K/uL
   6.9 g/dL
   147 mg/dL
   3.6 mg/dL
   19 mEq/L
   3.6 mEq/L
   54 mg/dL
   100 mEq/L
   130 mEq/L
   20.3 %
   13.3 K/uL
        [image002.jpg]
                             [**2139-7-4**]  05:47 AM
                             [**2139-7-4**]  02:25 PM
                             [**2139-7-4**]  09:37 PM
                             [**2139-7-5**]  02:01 AM
                             [**2139-7-5**]  09:12 AM
                             [**2139-7-5**]  03:00 PM
                             [**2139-7-6**]  12:00 AM
                             [**2139-7-6**]  04:46 AM
                             [**2139-7-6**]  06:00 AM
                             [**2139-7-7**]  01:18 AM
   WBC
   12.5
   12.5
   12.6
   13.3
   Hct
   21.8
   21.6
   21.3
   21.2
   20.3
   Plt
   [**Telephone/Fax (3) 2925**]94
   Cr
   3.6
   3.7
   3.7
   3.7
   3.6
   TCO2
   21
   19
   Glucose
   134
   258
   175
   129
   154
   147
   Other labs: PT / PTT / INR:12.0/29.3/1.0, ALT / AST:183/57, Alk Phos /
   T Bili:160/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:498 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:1.9
   mg/dL
   Imaging: [**7-6**] CXR: Interval progression of right lower lobe opacities
   worrisome for
   pneumonia.
   Mild vascular engorgement.
   Microbiology: [**2139-7-6**] SWAB   Source: left flank.
      GRAM STAIN (Final [**2139-7-6**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      WOUND CULTURE (Preliminary): P
   blood cx: NGTD
   urine cx [**7-1**]: cefepime resistant [**Doctor Last Name **]
   sputum [**7-3**]: 4+ pseudomonas
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, recent prolonged
   hospitalization where she became trach- dependent secondary to
   prolonged virulent pseudomonal PNA, presented in septic shock, ARF and
   AMS
   .
   Altered mental status: altered mental status since admission, clearly
   improved off narcotics but with persistent delierium.  Likely from
   pna/ARF/urosepsis.  Opiates cleared from system, EEG, and head CT
   negative.
   -Continue to treat infections
   -Continue lactulose with goal [**3-15**] BM per day for now
   -Dialysis if renal function worsens.
   Pneumonia: sputum with 4+ pseudomonas, RLL consolidation on CXR.
   Presumed VAP.
   -continue linezolid/ceftaz/cipro for presumed VAP
   - follow ID recs
   UTI: Urine with a GNR ([**Last Name (un) **] to ceftaz) and VRE
   -continue linezolid
   -other organism is sensitive to ceftaz
   -ID recs
   Sepsis: Off pressors with CVP and MAPs at goal.  Lactates normalized.
   Likely urosepsis, also with new developing RLL PNA.  Has already
   completed course of cefepime/vanc since admission and new pneumonia has
   blossomed in-house.  Double cover Pseudomonas for now.
   - continue cipro/ceftaz/linezolid for now.
   - double coverage with ceftaz/cipro for PSA, linezolid for VRE in urine
   - ID consulting for abx management
   Non-gap Metabolic acidosis: No diarrhea, no hyperchloremia.  Possibly a
   fistula from wound site?
   -continue to monitor, consider a fistulogram if this worsens
   Acute renal failure: Likely ATN in the setting of hypotension with
   isosthenuric urine.  Creatinine continues to be elevated without
   significant improvement.  UOP adequate.
   -No acute indication for HD
   -continue to monitor Cr and BUN
    .
   Acute on chronic resp failure:  Trach dependent with fluid overload,
   VAP
   -Continue to monitor ABGs and adjust settings prn
   -Lasix to keep even to slightly negative
   -Nebs prn, will decrease steroids today to 7.5mg
   -Treating VAP
   HTN: Pain control, uptitrate beta-blocker prn.
   -Restarted BB, hydral, dilt
   Seizure disorder- eeg without evidence of seizure
   -continue trileptal
   COPD
   -resumed slow steroid taper, would not taper prednisone this AM as
   still wheezing.
   -mdis
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-7-7**] 01:06 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2139-6-27**] 05:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Plan for family meeting on Wednesday, need to
   confirm with HCPs
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2139-07-08 07:48:00 Physician Resident Progress Note
Chief Complaint: Pneumonia
   24 Hour Events: Pt nods yes and no to questions. Follows simple
   commands.
   Pt Transfused 1 unit with HCT increase from 20 to 23
   - PICC placed
   - lasix gtt started, despite this, she was still even
   - ID recommended 1 more day of linezolid as well as repeat U Cx to eval
   for VRE
 PICC LINE - START [**2139-7-7**] 02:00 PM
 PRESEP CATHETER - STOP [**2139-7-7**] 06:49 PM
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-7-7**] 06:44 PM
   Ceftazidime - [**2139-7-7**] 08:11 PM
   Linezolid - [**2139-7-7**] 10:04 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-7-8**] 04:22 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-8**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 79 (73 - 89) bpm
   BP: 136/64(83) {124/59(76) - 160/78(97)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.4 kg (admission): 85 kg
   Height: 65 Inch
             Total In:
                                                                  2,106 mL
                                                                    188 mL
   PO:
             TF:
                                                                    240 mL
   IVF:
                                                                  1,071 mL
                                                                     88 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,820 mL
                                                                    920 mL
   Urine:
                                                                  1,780 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    286 mL
                                                                   -732 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 501 (501 - 525) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///19/
   Ve: 7.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: present, (Left radial pulse:
   present, (Right DP pulse: present, (Left DP pulse: present
   Skin:  Dressing in place
 L rectus incision
   Neurologic: Responds to: Pt moving all ext, nods in response to
   questions
   CV: RRR no MRG
   Resp: rhonchorous breath sounds throughout
   Abd: soft, NT/ND NABS
   Ext: 2+ LE edema
   Labs / Radiology
   343 K/uL
   8.6 g/dL
   149 mg/dL
   3.6 mg/dL
   19 mEq/L
   3.7 mEq/L
   53 mg/dL
   96 mEq/L
   126 mEq/L
   24.6 %
   13.2 K/uL
        [image002.jpg]
                             [**2139-7-4**]  09:37 PM
                             [**2139-7-5**]  02:01 AM
                             [**2139-7-5**]  09:12 AM
                             [**2139-7-5**]  03:00 PM
                             [**2139-7-6**]  12:00 AM
                             [**2139-7-6**]  04:46 AM
                             [**2139-7-6**]  06:00 AM
                             [**2139-7-7**]  01:18 AM
                             [**2139-7-7**]  07:00 PM
                             [**2139-7-8**]  04:37 AM
   WBC
   12.5
   12.5
   12.6
   13.3
   13.2
   Hct
   21.8
   21.6
   21.3
   21.2
   20.3
   23.1
   24.6
   Plt
   [**Telephone/Fax (3) 2925**]94
   343
   Cr
   3.7
   3.7
   3.7
   3.6
   3.4
   3.6
   TCO2
   19
   Glucose
   134
   258
   175
   129
   154
   147
   167
   149
   Other labs: PT / PTT / INR:11.6/27.3/1.0, ALT / AST:112/32, Alk Phos /
   T Bili:136/0.2, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:328 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, trach- dependece, h/o
   pseudomonal PNA who presented in septic shock (thought to be
   urosepsis), now with improving mental status and VAP.
   .
   # Vent-associated Pneumonia: sputum with 4+ pseudomonas, RLL
   consolidation on CXR.  Presumed VAP.
   -continue linezolid/ceftaz/cipro for presumed VAP
   - appreciate ID recs
   - follow sputum cx sensitivities
   .
   # Acute on chronic resp failure:  Trach-dependent with fluid overload,
   VAP
   -Continue to monitor ABGs and adjust settings prn
   -Lasix gtt for net goal of 1L negative
 1.2L negative this am, will
   monitor Cr and hemodynamics, continue lasix as tolerated
   -Nebs prn, decreased steroids yesterday to 7.5mg.  continue slow taper.
   -Treating VAP as above
   .
   # Altered mental status: altered mental status since admission, clearly
   improved off narcotics but with persistent delierium.  Likely from
   pna/ARF/urosepsis.  Opiates cleared from system, EEG, and head CT
   negative.
   -Continue to treat infections and wean vent settings
   .
   # UTI: Urine with a GNR ([**Last Name (un) **] to ceftaz) and VRE
   -continue linezolid for VRE
 repeat Ucx pending, plan to DC linezolid
   if culture negative
   -other organism is sensitive to ceftaz
   -appreciate ID recs
   # Non-gap Metabolic acidosis: No diarrhea, no hyperchloremia.  Possibly
   a fistula from wound site?
   -continue to monitor, consider a fistulogram if this worsens
   .
   # Acute renal failure: Likely ATN in the setting of hypotension with
   isosthenuric urine.  Creatinine continues to be elevated without
   significant improvement.  UOP adequate.
   -No acute indication for HD
   -continue to monitor Cr and BUN
   .
    # HTN: Pain control, uptitrate beta-blocker prn.
   -Stable on BBlocker, hydral, dilt
   .
    # Seizure disorder- eeg without evidence of seizure
   -continue trileptal
   .
    # COPD
   -resumed slow steroid taper, would not taper prednisone this AM as
   still wheezing.
   -mdis
   ICU Care
   Nutrition:
   Glycemic Control: RISS
   Lines:
   PICC Line - [**2139-7-7**] 02:00 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-07-09 06:57:00 Physician Resident Progress Note
Chief Complaint: Pneumonia
   24 Hour Events:
   Linezolid discontinued yesterday, urine culture grew mixed flora
   Pt self-dc'd NG tube overnight
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsCaptopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Ceftazidime - [**2139-7-7**] 08:11 PM
   Linezolid - [**2139-7-8**] 10:00 AM
   Ciprofloxacin - [**2139-7-8**] 05:40 PM
   Cefipime - [**2139-7-8**] 08:19 PM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-7-9**] 04:00 AM
   Hydralazine - [**2139-7-9**] 05:57 AM
   Metoprolol - [**2139-7-9**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-7-9**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 93 (69 - 93) bpm
   BP: 143/72(90) {121/60(73) - 158/86(101)} mmHg
   RR: 19 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.4 kg (admission): 85 kg
   Height: 65 Inch
             Total In:
                                                                  1,932 mL
                                                                  1,023 mL
   PO:
             TF:
                                                                    706 mL
                                                                     37 mL
   IVF:
                                                                    836 mL
                                                                    986 mL
   Blood products:
   Total out:
                                                                  4,075 mL
                                                                    960 mL
   Urine:
                                                                  3,675 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,143 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 673) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Diminished breath sounds
   throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, L wound - c/d/i
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   343 K/uL
   8.6 g/dL
   146 mg/dL
   3.4 mg/dL
   21 mEq/L
   3.6 mEq/L
   56 mg/dL
   95 mEq/L
   127 mEq/L
   24.6 %
   13.2 K/uL
        [image002.jpg]
                             [**2139-7-5**]  09:12 AM
                             [**2139-7-5**]  03:00 PM
                             [**2139-7-6**]  12:00 AM
                             [**2139-7-6**]  04:46 AM
                             [**2139-7-6**]  06:00 AM
                             [**2139-7-7**]  01:18 AM
                             [**2139-7-7**]  07:00 PM
                             [**2139-7-8**]  04:37 AM
                             [**2139-7-8**]  01:58 PM
                             [**2139-7-8**]  08:26 PM
   WBC
   12.5
   12.6
   13.3
   13.2
   Hct
   21.6
   21.3
   21.2
   20.3
   23.1
   24.6
   Plt
   [**Telephone/Fax (3) 2941**]43
   Cr
   3.7
   3.7
   3.6
   3.4
   3.6
   3.5
   3.4
   Glucose
   258
   175
   129
   154
   147
   167
   149
   279
   146
   Other labs: PT / PTT / INR:11.6/27.3/1.0, ALT / AST:112/32, Alk Phos /
   T Bili:136/0.2, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:328 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:1.3
   mg/dL
   Microbiology: Urine Culture [**7-7**] - mixed flora
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, trach- dependece, h/o
   pseudomonal PNA who presented in septic shock (thought to be
   urosepsis), now with improving mental status and VAP.
   .
   # Vent-associated Pneumonia: sputum with 4+ pseudomonas, RLL
   consolidation on CXR.  Presumed VAP.
   -continue linezolid/ceftaz/cipro for presumed VAP
   - appreciate ID recs
   - follow sputum cx sensitivities
   .
   # Acute on chronic resp failure:  Trach-dependent with fluid overload,
   VAP
   -Continue to monitor ABGs and adjust settings prn
   -Lasix gtt for net goal of 1L negative
 1.2L negative this am, will
   monitor Cr and hemodynamics, continue lasix as tolerated
   -Nebs prn, decreased steroids yesterday to 7.5mg.  continue slow taper.
   -Treating VAP as above
   .
   # Altered mental status: altered mental status since admission, clearly
   improved off narcotics but with persistent delierium.  Likely from
   pna/ARF/urosepsis.  Opiates cleared from system, EEG, and head CT
   negative.
   -Continue to treat infections and wean vent settings
   .
   # UTI: Urine with a GNR ([**Last Name (un) **] to ceftaz) and VRE
   -continue linezolid for VRE
 repeat Ucx pending, plan to DC linezolid
   if culture negative
   -other organism is sensitive to ceftaz
   -appreciate ID recs
   # Non-gap Metabolic acidosis: No diarrhea, no hyperchloremia.  Possibly
   a fistula from wound site?
   -continue to monitor, consider a fistulogram if this worsens
   .
   # Acute renal failure: Likely ATN in the setting of hypotension with
   isosthenuric urine.  Creatinine continues to be elevated without
   significant improvement.  UOP adequate.
   -No acute indication for HD
   -continue to monitor Cr and BUN
   .
    # HTN: Pain control, uptitrate beta-blocker prn.
   -Stable on BBlocker, hydral, dilt
   .
    # Seizure disorder- eeg without evidence of seizure
   -continue trileptal
   .
    # COPD
   -resumed slow steroid taper, would not taper prednisone this AM as
   still wheezing.
   -mdis
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-7-7**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2139-07-10 07:19:00 Physician Resident Progress Note
Chief Complaint: VAP
   24 Hour Events:
   Nutrition was discussed with the pt, the pt's son and PCP [**Last Name (NamePattern4) **].
   [**Last Name (STitle) 616**]. The patient is resistant to placement of a Dobhoff tube,
   additionally she would like to leave the hospital and does not want a
   feeding tube of any kind at this  time. Pt was started on a fentanyl
   patch. Speech and swallow consult for placement of PMV. Lasix gtt
   decreased from 12mg/hr to 7mg/hr.
   .
   This am pt c/o low back pain,  unchanged in character from her typical
   low back pain
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsCaptopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Linezolid - [**2139-7-8**] 10:00 AM
   Cefipime - [**2139-7-8**] 08:19 PM
   Ciprofloxacin - [**2139-7-9**] 05:55 PM
   Ceftazidime - [**2139-7-9**] 07:36 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Hydralazine - [**2139-7-9**] 05:56 PM
   Metoprolol - [**2139-7-9**] 05:56 PM
   Pantoprazole (Protonix) - [**2139-7-9**] 07:42 PM
   Morphine Sulfate - [**2139-7-9**] 09:48 PM
   Heparin Sodium (Prophylaxis) - [**2139-7-10**] 03:39 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-10**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 94 (85 - 101) bpm
   BP: 147/71(90) {109/55(69) - 156/126(133)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.4 kg (admission): 85 kg
   Height: 65 Inch
             Total In:
                                                                  1,831 mL
                                                                    326 mL
   PO:
             TF:
                                                                     37 mL
   IVF:
                                                                  1,795 mL
                                                                    326 mL
   Blood products:
   Total out:
                                                                  4,410 mL
                                                                    770 mL
   Urine:
                                                                  4,010 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,579 mL
                                                                   -444 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (127 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.47/51/113/21/12
   Ve: 7.9 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   Poor air exchange throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Dressing L rectus
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   368 K/uL
   8.6 g/dL
   88 mg/dL
   3.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   51 mg/dL
   98 mEq/L
   130 mEq/L
   25.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2139-7-6**]  04:46 AM
                             [**2139-7-6**]  06:00 AM
                             [**2139-7-7**]  01:18 AM
                             [**2139-7-7**]  07:00 PM
                             [**2139-7-8**]  04:37 AM
                             [**2139-7-8**]  01:58 PM
                             [**2139-7-8**]  08:26 PM
                             [**2139-7-9**]  05:18 AM
                             [**2139-7-9**]  02:50 PM
                             [**2139-7-10**]  01:44 AM
   WBC
   12.6
   13.3
   13.2
   12.8
   13.9
   Hct
   21.2
   20.3
   23.1
   24.6
   24.9
   25.2
   Plt
   288
   294
   343
   409
   368
   Cr
   3.7
   3.6
   3.4
   3.6
   3.5
   3.4
   3.0
   3.4
   TCO2
   38
   Glucose
   129
   154
   147
   167
   149
   279
   146
   105
   88
   Other labs: PT / PTT / INR:11.6/27.3/1.0, ALT / AST:70/27, Alk Phos / T
   Bili:131/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:328 IU/L, Ca++:8.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.7
   mg/dL
   Microbiology: Wound culture - NGTD
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, trach- dependece, h/o
   pseudomonal PNA who presented in septic shock (thought to be
   urosepsis), now with improving mental status and VAP.
   .
   # Vent-associated Pneumonia: sputum with 4+ pseudomonas, RLL
   consolidation on CXR.  Presumed VAP.
   -continue ceftaz/cipro for presumed VAP
 plan for 10 day course
   - appreciate ID recs
 linezolid DC
d on [**7-8**]
   .
   # Acute on chronic resp failure:  Trach-dependent with fluid overload,
   VAP
   -Continue to monitor ABGs and adjust settings prn
 tolerating
   trach-collar well
   -Lasix gtt for net goal of 1L negative
 will monitor Cr and
   hemodynamics, continue lasix as tolerated
 pt tolerating trach collar
   with improved diuresis
   -Nebs prn, decreased steroids yesterday to 7.5mg.  continue slow taper.
   -Treating VAP as above
   - continue trach collar trials
   .
   # Altered mental status: altered mental status since admission, clearly
   improved off narcotics but with persistent delierium.  MS improved
   following tx of underlying infection.  Opiates cleared from system,
   EEG, and head CT negative
   -Continue to treat infections and wean vent settings
   - will restart low dose pain medications
 monitor LFTs
   .
   # UTI: Urine with a GNR ([**Last Name (un) **] to ceftaz) and VRE
   - linezolid for VRE
 repeat Ucx mixed flora
 linezolid DC
d [**7-8**]
   -appreciate ID recs
   .
   # Acute renal failure: Likely ATN in the setting of hypotension with
   isosthenuric urine.  Creatinine continues to be elevated without
   significant improvement.  UOP adequate.
   -No acute indication for HD
   - Cr istable with diuresis
   .
    # HTN: Pain control, uptitrate beta-blocker prn.
   -Stable on BBlocker, hydral
 dilt on hold as no NGT
 If pt able to
   swallow w/ PMV will restart dilt
   .
    # Seizure disorder- eeg without evidence of seizure
   -continue trileptal
 on hold now as pt dc
d ngt
 restart if able to
   swallow
   .
    # COPD
   -resumed slow steroid taper, would not taper prednisone this AM as
   still wheezing.
   -mdis
   ICU Care
   Nutrition:  S&S evaluation today for possible starting of po
s given pt
   reluctance for placement of dobhoff or PEG.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-7-7**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:

2139-07-11 06:24:00 Physician Resident Progress Note
Chief Complaint: VAP
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsCaptopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Linezolid - [**2139-7-8**] 10:00 AM
   Cefipime - [**2139-7-8**] 08:19 PM
   Ciprofloxacin - [**2139-7-10**] 06:00 PM
   Ceftazidime - [**2139-7-10**] 08:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-7-11**] 04:03 AM
   Morphine Sulfate - [**2139-7-11**] 04:30 AM
   Hydralazine - [**2139-7-11**] 06:03 AM
   Metoprolol - [**2139-7-11**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-11**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (97
   HR: 81 (81 - 105) bpm
   BP: 102/50(62) {87/49(62) - 161/75(95)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.4 kg (admission): 85 kg
   Height: 65 Inch
             Total In:
                                                                    807 mL
                                                                     32 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    687 mL
                                                                     32 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                    370 mL
   Urine:
                                                                  2,285 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,578 mL
                                                                   -338 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 409 (409 - 611) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach collar
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   diminished breath sounds throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   368 K/uL
   8.6 g/dL
   88 mg/dL
   3.6 mg/dL
   20 mEq/L
   3.9 mEq/L
   53 mg/dL
   97 mEq/L
   130 mEq/L
   25.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2139-7-6**]  06:00 AM
                             [**2139-7-7**]  01:18 AM
                             [**2139-7-7**]  07:00 PM
                             [**2139-7-8**]  04:37 AM
                             [**2139-7-8**]  01:58 PM
                             [**2139-7-8**]  08:26 PM
                             [**2139-7-9**]  05:18 AM
                             [**2139-7-9**]  02:50 PM
                             [**2139-7-10**]  01:44 AM
                             [**2139-7-10**]  05:51 PM
   WBC
   13.3
   13.2
   12.8
   13.9
   Hct
   20.3
   23.1
   24.6
   24.9
   25.2
   Plt
   294
   343
   409
   368
   Cr
   3.6
   3.4
   3.6
   3.5
   3.4
   3.0
   3.4
   3.6
   TCO2
   38
   Glucose
   154
   147
   167
   149
   279
   146
   105
   88
   Other labs: PT / PTT / INR:11.6/27.3/1.0, ALT / AST:70/27, Alk Phos / T
   Bili:131/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:328 IU/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, trach- dependece, h/o
   pseudomonal PNA who presented in septic shock (thought to be
   urosepsis), now with improving mental status and VAP.
   .
   # Vent-associated Pneumonia: sputum with 4+ pseudomonas, RLL
   consolidation on CXR.  Presumed VAP.
   -continue ceftaz/cipro for presumed VAP
 plan for 10 day course
   - appreciate ID recs
 linezolid DC
d on [**7-8**]
   .
   # Acute on chronic resp failure:  Trach-dependent with fluid overload,
   VAP
   -Continue to monitor ABGs and adjust settings prn
 tolerating
   trach-collar well
   -Lasix gtt for net goal of 1L negative
 will monitor Cr and
   hemodynamics, continue lasix as tolerated
 pt tolerating trach collar
   with improved diuresis
   -Nebs prn, decreased steroids yesterday to 7.5mg.  continue slow taper.
   -Treating VAP as above
   - continue trach collar trials
   .
   # Altered mental status: altered mental status since admission, clearly
   improved off narcotics but with persistent delierium.  MS improved
   following tx of underlying infection.  Opiates cleared from system,
   EEG, and head CT negative
   -Continue to treat infections and wean vent settings
   - will restart low dose pain medications
 monitor LFTs
   .
   # UTI: Urine with a GNR ([**Last Name (un) **] to ceftaz) and VRE
   - linezolid for VRE
 repeat Ucx mixed flora
 linezolid DC
d [**7-8**]
   -appreciate ID recs
   .
   # Acute renal failure: Likely ATN in the setting of hypotension with
   isosthenuric urine.  Creatinine continues to be elevated without
   significant improvement.  UOP adequate.
   -No acute indication for HD
   - Cr istable with diuresis
   .
    # HTN: Pain control, uptitrate beta-blocker prn.
   -Stable on BBlocker, hydral
 dilt on hold as no NGT
 If pt able to
   swallow w/ PMV will restart dilt
   .
    # Seizure disorder- eeg without evidence of seizure
   -continue trileptal
 on hold now as pt dc
d ngt
 restart if able to
   swallow
   .
    # COPD
   -resumed slow steroid taper, would not taper prednisone this AM as
   still wheezing.
   -mdis
   ICU Care
   Nutrition:
   Comments: PO - pureed
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-7-7**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2139-07-11 11:02:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresis.  Back to trach collar for part of day.  PMV placed
   Lasix held due due increasing creatinine.
   On ventilator overnight
                                                  History obtained from ICU team
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Cefipime - [**2139-7-8**] 08:19 PM
   Ciprofloxacin - [**2139-7-10**] 06:00 PM
   Ceftazidime - [**2139-7-10**] 08:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-7-11**] 04:03 AM
   Morphine Sulfate - [**2139-7-11**] 04:30 AM
   Hydralazine - [**2139-7-11**] 06:03 AM
   Metoprolol - [**2139-7-11**] 06:03 AM
   Other medications:
   colace, SQH, SQI, nystatin, ASA, statin, MVI, oxacarb., fluticasone,
   CHG, MDIs/nebs, diltiazem, ceftaz, cipro, prednisone 7.5, lopressor,
   hydralazine, PPI, duragesic 50
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-11**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 92 (81 - 105) bpm
   BP: 158/58(82) {87/49(62) - 161/75(95)} mmHg
   RR: 15 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.4 kg (admission): 85 kg
   Height: 65 Inch
             Total In:
                                                                    807 mL
                                                                     54 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    687 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                    530 mL
   Urine:
                                                                  2,285 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,578 mL
                                                                   -476 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 409 (409 - 502) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Crackles : )
   Abdominal: Bowel sounds present, wound dsg C/D/I
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal, says "yes" to almost all questions
   Labs / Radiology
   8.6 g/dL
   368 K/uL
   104 mg/dL
   3.6 mg/dL
   20 mEq/L
   4.4 mEq/L
   53 mg/dL
   99 mEq/L
   130 mEq/L
   25.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2139-7-7**]  01:18 AM
                             [**2139-7-7**]  07:00 PM
                             [**2139-7-8**]  04:37 AM
                             [**2139-7-8**]  01:58 PM
                             [**2139-7-8**]  08:26 PM
                             [**2139-7-9**]  05:18 AM
                             [**2139-7-9**]  02:50 PM
                             [**2139-7-10**]  01:44 AM
                             [**2139-7-10**]  05:51 PM
                             [**2139-7-11**]  06:00 AM
   WBC
   13.3
   13.2
   12.8
   13.9
   Hct
   20.3
   23.1
   24.6
   24.9
   25.2
   Plt
   294
   343
   409
   368
   Cr
   3.6
   3.4
   3.6
   3.5
   3.4
   3.0
   3.4
   3.6
   3.6
   TCO2
   38
   Glucose
   147
   167
   149
   279
   146
   105
   88
   104
   Other labs: PT / PTT / INR:11.6/27.3/1.0, ALT / AST:70/27, Alk Phos / T
   Bili:131/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:328 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   69-year-old woman with acute-on-chronic respiratory failure,
   re-admitted with sepsis, pneumonia, and UTI.  She has improved
   significantly.
   Respiratory failure
   -          improving with diuresis
   -          TC trial as she tolerates today
   -          keep even to slightly (+) today
   Renal failure
   -          hold diuresis given slighly increased creatinine
   -          may be at new baseline
   VRE UTI
   - s/p linezolid rx
   Pseudomonal pneumonia (VAP from rehab)
   - complete course of ABX (plan to finish [**7-13**])
   Rectus sheath hematoma
   - wound looks OK
   Hypertension
   - convert meds back to enteral
   ICU Care
   Nutrition: PO diet as per speech/swallow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-7-7**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 40 minutes

2139-07-12 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   random cortisol 26.7
   UO dropped to 10-20cc/hr, minimal PO intake. Started maintenance
   fluids.
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-7-11**] 06:02 PM
   Ceftazidime - [**2139-7-11**] 08:11 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-7-11**] 11:53 PM
   Morphine Sulfate - [**2139-7-12**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Neurologic: mild back pain, feels it is currently well controlled
   Flowsheet Data as of  [**2139-7-12**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 82 (68 - 99) bpm
   BP: 141/59(79) {106/46(61) - 158/68(93)} mmHg
   RR: 13 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.4 kg (admission): 85 kg
   Height: 65 Inch
             Total In:
                                                                    540 mL
                                                                    627 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    420 mL
                                                                    627 mL
   Blood products:
   Total out:
                                                                  1,042 mL
                                                                    145 mL
   Urine:
                                                                  1,042 mL
                                                                    125 mL
   NG:
   Stool:
   20 mL
   Drains:
   Balance:
                                                                   -502 mL
                                                                    482 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 609 (414 - 609) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   406 K/uL
   8.1 g/dL
   110 mg/dL
   3.6 mg/dL
   23 mEq/L
   4.5 mEq/L
   54 mg/dL
   101 mEq/L
   136 mEq/L
   24.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2139-7-7**]  07:00 PM
                             [**2139-7-8**]  04:37 AM
                             [**2139-7-8**]  01:58 PM
                             [**2139-7-8**]  08:26 PM
                             [**2139-7-9**]  05:18 AM
                             [**2139-7-9**]  02:50 PM
                             [**2139-7-10**]  01:44 AM
                             [**2139-7-10**]  05:51 PM
                             [**2139-7-11**]  06:00 AM
                             [**2139-7-12**]  03:20 AM
   WBC
   13.2
   12.8
   13.9
   11.5
   Hct
   23.1
   24.6
   24.9
   25.2
   24.5
   Plt
   343
   409
   368
   406
   Cr
   3.4
   3.6
   3.5
   3.4
   3.0
   3.4
   3.6
   3.6
   3.6
   TCO2
   38
   Glucose
   167
   149
   279
   146
   105
   88
   104
   110
   Other labs: PT / PTT / INR:11.6/27.3/1.0, ALT / AST:70/27, Alk Phos / T
   Bili:131/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:328 IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, trach- dependece, h/o
   pseudomonal PNA who presented in septic shock (thought to be
   urosepsis), now with improving mental status and VAP.
   .
   # Vent-associated Pneumonia: sputum with 4+ pseudomonas, RLL
   consolidation on CXR.  Presumed VAP.
   -continue ceftaz/cipro for presumed VAP
 plan for 10 day course
   (started [**7-4**])
   - appreciate ID recs
 linezolid DC
d on [**7-8**]
   .
   # Acute on chronic resp failure:  Trach-dependent with fluid overload,
   VAP
   - Now tolerating trach-collar well s/p diuresis
   -Lasix gtt DC
d yest. Autodiuresis this am. Plan to bolus lasix for
   goal 1L negative
 will monitor Cr and hemodynamics
   -Nebs prn,
   - plan to decrease steroids to 5mg tomorrow, continue slow taper.
   -Treating VAP as above
   .
   # Altered mental status: altered mental status since admission, clearly
   improved off narcotics but with persistent delierium.  MS improved
   following tx of underlying infection.  Opiates cleared from system,
   EEG, and head CT negative
   -Continue to treat infections and wean vent settings
   - tolerating low dose pain meds
   .
   # UTI: Urine with a GNR ([**Last Name (un) **] to ceftaz) and VRE
   - linezolid for VRE
 repeat Ucx mixed flora
 linezolid DC
d [**7-8**]
   -appreciate ID recs
   .
   # Acute renal failure: Likely ATN in the setting of hypotension with
   isosthenuric urine.  Creatinine continues to be elevated without
   significant improvement.  UOP adequate.
   -No acute indication for HD
   - Cr  bumped to 3.6 yest
 lasix held
    # HTN: Pain control, uptitrate beta-blocker prn.
   - pt now restarted on po hydral, dilt and lopressor
   .
    # Seizure disorder- eeg without evidence of seizure
   -continue trileptal
   .
    # COPD
   -resumed slow steroid taper
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-7-7**] 02:00 PM
   Prophylaxis:
   DVT:  sc heparin and boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-07-13 07:03:00 Physician Resident Progress Note
Chief Complaint: VAP/Urosepsis
   24 Hour Events:
   Yesterday Pt given 40mg IV lasix X1 still 500cc +, received 80mg IV
   lasix X1 with subsequent bump in Cr to 3.8. Further lasix held.
   Tolerating trach collar well.
 INVASIVE VENTILATION - STOP [**2139-7-12**] 08:40 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsCaptopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-7-12**] 06:00 PM
   Ceftazidime - [**2139-7-12**] 07:38 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2139-7-12**] 06:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-13**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.7
   HR: 73 (62 - 86) bpm
   BP: 140/69(86) {112/52(67) - 158/76(95)} mmHg
   RR: 18 (9 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.4 kg (admission): 85 kg
   Height: 65 Inch
             Total In:
                                                                  1,282 mL
                                                                     73 mL
   PO:
                                                                    100 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,182 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                    912 mL
                                                                    380 mL
   Urine:
                                                                    892 mL
                                                                    380 mL
   NG:
   Stool:
                                                                     20 mL
   Drains:
   Balance:
                                                                    370 mL
                                                                   -308 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 743 (743 - 743) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach collar
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: ), poor air exchange throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, L rectus wound c/d/i
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   429 K/uL
   8.1 g/dL
   114 mg/dL
   3.9 mg/dL
   22 mEq/L
   4.3 mEq/L
   54 mg/dL
   101 mEq/L
   134 mEq/L
   24.3 %
   10.3 K/uL
        [image002.jpg]
                             [**2139-7-8**]  01:58 PM
                             [**2139-7-8**]  08:26 PM
                             [**2139-7-9**]  05:18 AM
                             [**2139-7-9**]  02:50 PM
                             [**2139-7-10**]  01:44 AM
                             [**2139-7-10**]  05:51 PM
                             [**2139-7-11**]  06:00 AM
                             [**2139-7-12**]  03:20 AM
                             [**2139-7-12**]  06:14 PM
                             [**2139-7-13**]  02:19 AM
   WBC
   12.8
   13.9
   11.5
   10.3
   Hct
   24.9
   25.2
   24.5
   24.3
   Plt
   [**Telephone/Fax (3) 2973**]29
   Cr
   3.5
   3.4
   3.0
   3.4
   3.6
   3.6
   3.6
   3.8
   3.9
   TCO2
   38
   Glucose
   279
   146
   105
   88
   104
   110
   134
   114
   Other labs: PT / PTT / INR:11.6/27.3/1.0, ALT / AST:70/27, Alk Phos / T
   Bili:131/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:328 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:5.1
   mg/dL
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, trach- dependece, h/o
   pseudomonal PNA who presented in septic shock (thought to be
   urosepsis), now with improving mental status and VAP.
   .
   # Vent-associated Pneumonia: sputum with 4+ pseudomonas, RLL
   consolidation on CXR.  Presumed VAP.
   -continue ceftaz/cipro for presumed VAP
 plan for 10 day course
   (started [**7-4**]) , last day of treatment if [**2139-7-13**]
   # Acute on chronic resp failure:  Trach-dependent with fluid overload,
   VAP
   - Now tolerating trach-collar well s/p diuresis
   -continue to diurese with goal I/O -500cc to 1 liter with bolus doses
   of IV lasix, attempt 40mg IV x 1 and then 80mg IV if does not respond
   to 40.
   -Nebs prn,
   # Altered mental status: improved, Aox3, able to answer questions
   appropriately, possibly related to opiates as well as infectious
   issues, now on low doses for pain.
   # UTI: on ceftaz, last day [**7-13**].
   # Acute renal failure: Likely ATN in the setting of hypotension with
   isosthenuric urine.  Cr stable at 3.6, oliguric.
   -seems hypervolemic and low UOP seems related to renal failure,
   continue to diurese with bolus lasix as above
   -No acute indication for HD
    # HTN: Pain control, HTN well controlled
    # Seizure disorder- eeg without evidence of seizure
   -continue trileptal
    # COPD: prednisone 5mg daily, decreased from 7.5 on [**7-12**].
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-7-7**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2139-07-13 12:15:00 Physician Attending Progress Note
Chief Complaint: Denies pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2139-7-12**] 08:40 AM
   History obtained from [**Hospital 85**] Medical records, moaning
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-7-12**] 06:00 PM
   Ceftazidime - [**2139-7-12**] 07:38 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2139-7-12**] 06:20 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-13**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.3
   HR: 65 (62 - 86) bpm
   BP: 113/61(74) {98/52(66) - 151/76(95)} mmHg
   RR: 16 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.4 kg (admission): 85 kg
   Height: 65 Inch
             Total In:
                                                                  1,282 mL
                                                                     73 mL
   PO:
                                                                    100 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,182 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                    912 mL
                                                                    540 mL
   Urine:
                                                                    892 mL
                                                                    540 mL
   NG:
   Stool:
                                                                     20 mL
   Drains:
   Balance:
                                                                    370 mL
                                                                   -468 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 743 (743 - 743) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, trache
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   prolonged exp few wheezes
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, RUE more swollen
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   429 K/uL
   114 mg/dL
   3.9 mg/dL
   22 mEq/L
   4.3 mEq/L
   54 mg/dL
   101 mEq/L
   134 mEq/L
   24.3 %
   10.3 K/uL
        [image002.jpg]
                             [**2139-7-8**]  01:58 PM
                             [**2139-7-8**]  08:26 PM
                             [**2139-7-9**]  05:18 AM
                             [**2139-7-9**]  02:50 PM
                             [**2139-7-10**]  01:44 AM
                             [**2139-7-10**]  05:51 PM
                             [**2139-7-11**]  06:00 AM
                             [**2139-7-12**]  03:20 AM
                             [**2139-7-12**]  06:14 PM
                             [**2139-7-13**]  02:19 AM
   WBC
   12.8
   13.9
   11.5
   10.3
   Hct
   24.9
   25.2
   24.5
   24.3
   Plt
   [**Telephone/Fax (3) 2973**]29
   Cr
   3.5
   3.4
   3.0
   3.4
   3.6
   3.6
   3.6
   3.8
   3.9
   TCO2
   38
   Glucose
   279
   146
   105
   88
   104
   110
   134
   114
   Other labs: PT / PTT / INR:11.6/27.3/1.0, ALT / AST:70/27, Alk Phos / T
   Bili:131/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:328 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:5.1
   mg/dL
   Assessment and Plan
   Respiratory failure
   Renal failure
   COPD
   Anemia
   Thigh hemtoma
   Confusion
   RUE swelling
   Breathing comfortably on trache collar.  Creat is up slightly. Will U/S
   RUE.  Holding further lasix and will repeat creat later today
   ICU Care
   Nutrition:
   Comments: eating
   Glycemic Control:  Comments: oral hypoglycemic
   Lines:
   PICC Line - [**2139-7-7**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2139-07-14 07:45:00 Physician Resident Progress Note
Chief Complaint: UTI, VAP
   24 Hour Events:
   Cr up to 4.0
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-7-13**] 06:30 PM
   Ceftazidime - [**2139-7-13**] 07:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2139-7-14**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 72 (61 - 89) bpm
   BP: 137/58(76) {98/52(65) - 153/76(94)} mmHg
   RR: 14 (9 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.4 kg (admission): 85 kg
   Height: 65 Inch
             Total In:
                                                                    598 mL
                                                                     80 mL
   PO:
                                                                    285 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    313 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                    232 mL
   Urine:
                                                                    890 mL
                                                                    232 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -293 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 743 (743 - 743) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   482 K/uL
   8.4 g/dL
   93 mg/dL
   4.1 mg/dL
   21 mEq/L
   4.2 mEq/L
   54 mg/dL
   101 mEq/L
   135 mEq/L
   24.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2139-7-9**]  05:18 AM
                             [**2139-7-9**]  02:50 PM
                             [**2139-7-10**]  01:44 AM
                             [**2139-7-10**]  05:51 PM
                             [**2139-7-11**]  06:00 AM
                             [**2139-7-12**]  03:20 AM
                             [**2139-7-12**]  06:14 PM
                             [**2139-7-13**]  02:19 AM
                             [**2139-7-13**]  10:53 PM
                             [**2139-7-14**]  04:41 AM
   WBC
   12.8
   13.9
   11.5
   10.3
   10.0
   Hct
   24.9
   25.2
   24.5
   24.3
   24.8
   Plt
   [**Telephone/Fax (3) 2973**]29
   482
   Cr
   3.0
   3.4
   3.6
   3.6
   3.6
   3.8
   3.9
   4.0
   4.1
   TCO2
   38
   Glucose
   105
   88
   104
   110
   134
   114
   101
   93
   Other labs: PT / PTT / INR:11.6/27.3/1.0, ALT / AST:70/27, Alk Phos / T
   Bili:131/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:328 IU/L, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, trach- dependece, h/o
   pseudomonal PNA who presented in septic shock (thought to be
   urosepsis), now with improving mental status and VAP.
   # Vent-associated Pneumonia:  Has finished a 10 day treatment of VAP.
   Ceftaz and Cipro.
   # Acute on chronic resp failure:  Trach-dependent with fluid overload,
   VAP
   - Now tolerating trach-collar well s/p diuresis
   - may have reached a point of euvolemia, third spacing fluid but unable
   to diurese without increasing creatinine
   -Nebs prn,
   # Altered mental status: improved, Aox3, able to answer questions
   appropriately, possibly related to opiates as well as infectious
   issues, now on low doses for pain.. Clincially improved
   # UTI: repeat U/As with elevated WBCs and + leuk esterase
   -pyuria, foley changed
   -f/u cultures
   -afebrile and asymptomatic- if + cultures will treat for UTI-
   complicated
   # Acute renal failure: Likely ATN in the setting of hypotension with
   isosthenuric urine.  Cr 4.1.  slowly increasing.  Hold further
   diuresis.
   stable at 3.6, oliguric.
   - negative 300cc yesterday and 100cc today, goal for I/O even
   -making 30-40 cc per hour of urine over past 32 hours
   -No acute indication for HD
    # HTN: Pain control, HTN well controlled
    # Seizure disorder- eeg without evidence of seizure
   -continue trileptal
    # COPD: prednisone 5mg daily, decreased from 7.5 on [**7-12**], decrease to
   2.5mg daily on [**2139-7-17**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-7-7**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2139-07-15 07:16:00 Physician Resident Progress Note
Chief Complaint: VAP/Urosepsis
   24 Hour Events:
   Pt with increased urine output with fluid bolus yesterday
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-7-13**] 06:30 PM
   Ceftazidime - [**2139-7-13**] 07:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-7-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-15**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 71 (59 - 89) bpm
   BP: 144/54(77) {104/45(59) - 157/72(94)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.4 kg (admission): 85 kg
   Height: 65 Inch
                  Total In:
                                                                    820 mL
                                                                     50 mL
   PO:
                                                                    270 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    550 mL
   Blood products:
   Total out:
                                                                    927 mL
                                                                    330 mL
   Urine:
                                                                    927 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -107 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   poor air exchange throughout
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   469 K/uL
   8.2 g/dL
   88 mg/dL
   4.2 mg/dL
   21 mEq/L
   4.3 mEq/L
   55 mg/dL
   101 mEq/L
   137 mEq/L
   25.4 %
   11.5 K/uL
        [image002.jpg]
                             [**2139-7-9**]  02:50 PM
                             [**2139-7-10**]  01:44 AM
                             [**2139-7-10**]  05:51 PM
                             [**2139-7-11**]  06:00 AM
                             [**2139-7-12**]  03:20 AM
                             [**2139-7-12**]  06:14 PM
                             [**2139-7-13**]  02:19 AM
                             [**2139-7-13**]  10:53 PM
                             [**2139-7-14**]  04:41 AM
                             [**2139-7-15**]  04:00 AM
   WBC
   13.9
   11.5
   10.3
   10.0
   11.5
   Hct
   25.2
   24.5
   24.3
   24.8
   25.4
   Plt
   368
   406
   429
   482
   469
   Cr
   3.4
   3.6
   3.6
   3.6
   3.8
   3.9
   4.0
   4.1
   4.2
   TCO2
   38
   Glucose
   88
   104
   110
   134
   114
   101
   93
   88
   Other labs: PT / PTT / INR:11.6/27.3/1.0, ALT / AST:70/27, Alk Phos / T
   Bili:131/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:328 IU/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.5
   mg/dL
   Assessment and Plan
   69 F w/ MMP including copd, diastolic chf, dm2, trach- dependece, h/o
   pseudomonal PNA who presented in septic shock (thought to be
   urosepsis), now with improving mental status and VAP.
   # Vent-associated Pneumonia:  Has finished a 10 day treatment of VAP.
   Ceftaz and Cipro.
   # Acute on chronic resp failure:  Trach-dependent with fluid overload,
   VAP
   - Now tolerating trach-collar well s/p diuresis
   - may have reached a point of euvolemia, third spacing fluid but unable
   to diurese without increasing creatinine
   -Nebs prn,
   # Altered mental status: improved
   # UTI: repeat U/As with elevated WBCs and + leuk esterase
   -pyuria, foley changed
   -f/u cultures
   -afebrile and asymptomatic- if + cultures may  treat for UTI-
   complicated
   # Acute renal failure: Likely ATN in the setting of hypotension  Cr
   4.1.  slowly increasing.  Borderline low UOP- give 500cc fluid bolus
   challenge to see if UOP picks up then more likely pre renal.
    -No acute indication for HD
    # HTN: Pain control,  BPs are slightly lower than last few days,
   -decrease hydralazine to 25mg po q6hrs from 50mg po q6hrs.
    # Seizure disorder- eeg without evidence of seizure
   -continue trileptal
    # COPD: prednisone 5mg daily, decreased from 7.5 on [**7-12**], decrease to
   2.5mg daily on [**2139-7-17**]
   ICU Care
   Nutrition:
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2139-7-7**] 02:00 PM
   Prophylaxis:
   DVT:  SQ heparin
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-07-15 11:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Comfortable
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Captopril
   Renal Toxicity;
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Shellfish
   Hives;
   Nsaids
   Unknown;
   Promethazine
   abnormal moveme
   Valproate Sodium
   hyperammonemia;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-7-13**] 06:30 PM
   Ceftazidime - [**2139-7-13**] 07:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-7-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-7-15**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.4
   HR: 71 (59 - 89) bpm
   BP: 122/55(71) {110/53(71) - 157/86(103)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.4 kg (admission): 85 kg
   Height: 65 Inch
                  Total In:
                                                                    820 mL
                                                                    200 mL
   PO:
                                                                    270 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    550 mL
   Blood products:
   Total out:
                                                                    927 mL
                                                                    445 mL
   Urine:
                                                                    927 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -107 mL
                                                                   -245 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, Hematoma
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   469 K/uL
   88 mg/dL
   4.2 mg/dL
   21 mEq/L
   4.3 mEq/L
   55 mg/dL
   101 mEq/L
   137 mEq/L
   25.4 %
   11.5 K/uL
        [image002.jpg]
                             [**2139-7-9**]  02:50 PM
                             [**2139-7-10**]  01:44 AM
                             [**2139-7-10**]  05:51 PM
                             [**2139-7-11**]  06:00 AM
                             [**2139-7-12**]  03:20 AM
                             [**2139-7-12**]  06:14 PM
                             [**2139-7-13**]  02:19 AM
                             [**2139-7-13**]  10:53 PM
                             [**2139-7-14**]  04:41 AM
                             [**2139-7-15**]  04:00 AM
   WBC
   13.9
   11.5
   10.3
   10.0
   11.5
   Hct
   25.2
   24.5
   24.3
   24.8
   25.4
   Plt
   368
   406
   429
   482
   469
   Cr
   3.4
   3.6
   3.6
   3.6
   3.8
   3.9
   4.0
   4.1
   4.2
   TCO2
   38
   Glucose
   88
   104
   110
   134
   114
   101
   93
   88
   Other labs: PT / PTT / INR:11.6/27.3/1.0, ALT / AST:70/27, Alk Phos / T
   Bili:131/0.3, Differential-Neuts:60.0 %, Band:14.0 %, Lymph:26.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:394 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:328 IU/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.5
   mg/dL
   Assessment and Plan
   Respiratory failure
   COPD
   Steroid Rx
   Renal failure
   Hematoma
   Anemia
   Creat continuing to rise slowly.  making ~ 1L of urine/day.  Taking pos
   but intake remains poor. Have reduced BP meds and her BP is now closer
   to baseline 150 syst. Hopefully renal fxn will stabilize at higher BP.
   Not a candidate for dialysis given her wishes about a feeding tube and
   poor po intake.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-7-7**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes